2182-11-11 10:43:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 63 year old man who
   presented with hypotension, pancreatitis, ARF, and possible IMI. MICU
   course complicated by abdominal compartment syndrome and persistent
   hypoxemia.
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2182-11-10**] 11:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-11-10**] 12:00 PM
   Meropenem - [**2182-11-11**] 03:45 AM
   Metronidazole - [**2182-11-11**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 2.8 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.14 mg/Kg/hour
   Insulin - Regular - 10 units/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Cisatracurium - [**2182-11-10**] 11:26 AM
   Pantoprazole (Protonix) - [**2182-11-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-11-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-11**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.7
   HR: 98 (98 - 111) bpm
   BP: 100/62(76) {83/57(68) - 117/75(91)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 18 (14 - 20)mmHg
   Bladder pressure: 16 (15 - 16) mmHg
   Total In:
                                                                  9,623 mL
                                                                  1,399 mL
   PO:
   TF:
   IVF:
                                                                  9,489 mL
                                                                    954 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                  1,300 mL
   Urine:
                                                                    635 mL
                                                                    960 mL
   NG:
                                                                     60 mL
                                                                    340 mL
   Stool:
   Drains:
   Balance:
                                                                  8,928 mL
                                                                     99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 650 (600 - 650) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 24 cmH2O
   Compliance: 54.2 cmH2O/mL
   SpO2: 93%
   ABG: 7.28/39/81.[**Numeric Identifier 607**]/17/-7
   Ve: 18.7 L/min
   PaO2 / FiO2: 116
   Physical Examination
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   150 K/uL
   311 mg/dL
   3.1 mg/dL
   17 mEq/L
   5.3 mEq/L
   54 mg/dL
   111 mEq/L
   139 mEq/L
   36.5 %
   13.5 K/uL
        [image002.jpg]
                            [**2182-11-10**]  09:56 AM
                            [**2182-11-10**]  01:10 PM
                            [**2182-11-10**]  03:23 PM
                            [**2182-11-10**]  04:14 PM
                            [**2182-11-10**]  06:12 PM
                            [**2182-11-10**]  11:44 PM
                            [**2182-11-11**]  12:54 AM
                            [**2182-11-11**]  03:46 AM
                            [**2182-11-11**]  04:00 AM
                            [**2182-11-11**]  05:54 AM
   WBC
   12.5
   13.3
   13.5
   Hct
   37.8
   37.3
   36.5
   Plt
   194
   179
   150
   Cr
   2.8
   3.1
   3.1
   TropT
   0.38
   0.63
   0.94
   TCO2
   22
   22
   19
   20
   19
   19
   19
   Glucose
   138
   70
   311
   Other labs: PT / PTT / INR:14.7/30.4/1.3, CK / CKMB /
   Troponin-T:1439/40/0.94, ALT / AST:66/139, Alk Phos / T Bili:90/1.0,
   Amylase / Lipase:[**2164**]/1103, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.8
   g/dL, LDH:655 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Imaging: Bibasilar airspace opacitiy
   Assessment and Plan
   63 year old man who presents with severe pancreatitis c/b by hypoxemic
   respiraotry failure, NSTEMI and non-oliguric acute renal failure.
   Abdominal compartment
   syndrome responsive to conservative management. Volume replete and
   weaning off neo. If unable to come off pressors would prefer neo in the
   setting of decreased contractility and SVR.
   would decrease Vt to 6cc/kg. Tolerate ph > 7.2. Awaiting final read of
   TTE today but prelim has had a decrease in his EF, still doubt primary
   cardiac event. Will DC paralytics today. DDx of ARF is ATN vs
   contrast nepropathy or abdominal compartment syndrome. Metabolic
   acidosis and borderline K, will consult renal today for possible RRT.
   Continues on broad empiric antibiotics for leukocytosis and
   low grade fever. Will f/u culutres. No evidence of pancreatic necrosis
   on CT. Surgery following, pancreatic enzymes trending down, on TPN.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2182-11-10**] 09:00 PM 44.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2182-11-9**] 09:30 PM
   Arterial Line - [**2182-11-9**] 10:18 PM
   Multi Lumen - [**2182-11-9**] 10:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2182-11-12 11:03:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 year old man with severe pancreatitis, MODS. Please see previous
   notes for details.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2182-11-11**] 10:15 AM
 BLOOD CULTURED - At [**2182-11-11**] 10:03 PM
 URINE CULTURE - At [**2182-11-11**] 10:04 PM
 FEVER - 102.0
F - [**2182-11-12**] 12:00 AM
   Switched to levophed but develped tachycardia and now back on neo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-11-10**] 12:00 PM
   Meropenem - [**2182-11-12**] 04:49 AM
   Metronidazole - [**2182-11-12**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 2 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-11-12**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2182-11-12**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-12**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.2
C (100.7
   HR: 93 (86 - 117) bpm
   BP: 89/63(74) {88/58(69) - 115/75(89)} mmHg
   RR: 28 (16 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 9 (9 - 19)mmHg
   Bladder pressure: 9 (9 - 16) mmHg
                                Total In:
                                                                  3,420 mL
                                                                  1,495 mL
   PO:
                                TF:
   IVF:
                                                                  2,315 mL
                                                                  1,028 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                  1,385 mL
   Urine:
                                                                  2,315 mL
                                                                    885 mL
   NG:
                                                                    340 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                    765 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 580) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 91%
   ABG: 7.30/46/81.[**Numeric Identifier 607**]/22/-3
   Ve: 15.1 L/min
   PaO2 / FiO2: 81
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   153 K/uL
   159 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   58 mg/dL
   118 mEq/L
   146 mEq/L
   34.7 %
   13.6 K/uL
        [image002.jpg]
                            [**2182-11-10**]  11:44 PM
                            [**2182-11-11**]  12:54 AM
                            [**2182-11-11**]  03:46 AM
                            [**2182-11-11**]  04:00 AM
                            [**2182-11-11**]  05:54 AM
                            [**2182-11-11**]  01:57 PM
                            [**2182-11-11**]  03:53 PM
                            [**2182-11-11**]  10:34 PM
                            [**2182-11-12**]  05:10 AM
                            [**2182-11-12**]  05:46 AM
   WBC
   13.5
   13.6
   Hct
   36.5
   34.7
   Plt
   150
   153
   Cr
   3.1
   2.4
   1.9
   TropT
   0.94
   1.41
   TCO2
   20
   19
   19
   19
   21
   24
   24
   Glucose
   [**Telephone/Fax (3) 7239**]
   Other labs: PT / PTT / INR:13.7/30.9/1.2, CK / CKMB /
   Troponin-T:1489/10/1.41, ALT / AST:54/120, Alk Phos / T Bili:76/0.9,
   Amylase / Lipase:1289/500, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.8
   g/dL, LDH:871 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Imaging: Echo - dilated LA, RV dialted with depressed systolic
   function. No sig. valvular abnormality. Poor quality study but grossly
   no change in EF.
   Assessment and Plan
   63 year old man with PMH as above who presents with severe pancreatitis
   and MODS. Renal function improving. Febrile yesterday raising concern
   for
   progressive pancreatititis, necorsis and infection. CT with contrast is
   problem[**Name (NI) 1114**] given Cr and doubt CT would result in a diagnosis that
   would alter management.
   GNR is sputum are also a potential explanantion for fever. Continue
   vanc/[**Last Name (un) 430**]/flagyl for now. Could DC flagyl pending c. diff assay. Echo
   yesterday with
   worsening right sided function, not unexpected given respiratory
   failure. Trend troponin but doubt primary cardiac event. Further plans
   as per resident note.
   Decrease Vt to 6cc/Kg. Wean fi02 for pa02 > 60. When Fi02 < 0.5 can
   wean PEEP.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2182-11-11**] 08:13 PM 44.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2182-11-9**] 09:30 PM
   Arterial Line - [**2182-11-9**] 10:18 PM
   Multi Lumen - [**2182-11-9**] 10:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-13 10:02:00 Physician Attending Progress Note
Chief Complaint: Shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 63 year old man who
   presented with severe pancreatitis and MODS. Now with improving renal
   function, off of pressors but with perisistent  respiratory failure.
   24 Hour Events:
 FEVER - 102.1
F - [**2182-11-12**] 01:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2182-11-12**] 08:00 AM
   Ciprofloxacin - [**2182-11-12**] 08:40 PM
   Meropenem - [**2182-11-13**] 03:43 AM
   Vancomycin - [**2182-11-13**] 08:15 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Insulin - Regular - 9 units/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-13**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-13**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.3
C (99.1
   HR: 102 (85 - 102) bpm
   BP: 104/58(72) {80/49(60) - 118/89(89)} mmHg
   RR: 31 (24 - 34) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 14 (9 - 17)mmHg
   Bladder pressure: 11 (7 - 11) mmHg
   Total In:
                                                                  6,595 mL
                                                                  2,604 mL
   PO:
   TF:
   IVF:
                                                                  5,432 mL
                                                                  1,851 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    990 mL
   Urine:
                                                                  2,075 mL
                                                                    940 mL
   NG:
                                                                    900 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  3,520 mL
                                                                  1,614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 0 (0 - 2) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 90%
   ABG: 7.32/49/82.[**Numeric Identifier 96**]/23/-1
   Ve: 14.2 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bibasilar)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   122 K/uL
   183 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   60 mg/dL
   117 mEq/L
   144 mEq/L
   31.6 %
   11.4 K/uL
        [image002.jpg]
                            [**2182-11-12**]  05:46 AM
                            [**2182-11-12**]  10:25 AM
                            [**2182-11-12**]  01:20 PM
                            [**2182-11-12**]  04:27 PM
                            [**2182-11-12**]  04:36 PM
                            [**2182-11-12**]  08:56 PM
                            [**2182-11-13**]  01:00 AM
                            [**2182-11-13**]  01:15 AM
                            [**2182-11-13**]  02:37 AM
                            [**2182-11-13**]  05:42 AM
   WBC
   11.2
   11.4
   Hct
   32.2
   31.6
   Plt
   131
   122
   Cr
   1.7
   1.6
   TropT
   1.16
   TCO2
   24
   25
   25
   24
   24
   25
   25
   26
   Glucose
   115
   183
   Other labs: PT / PTT / INR:14.5/34.7/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:43/76, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:636/129, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.3
   g/dL, LDH:773 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Imaging: bibasilar infiltrates + b/l effusions
   Assessment and Plan
   63 year old man with severe pancreatitis and MODS. Now off pressors
   with normalizing renal function. Continues on low Vt ventilation. Wean
   fi02 as tolerated for
   Pa02 > 60. When fi02 < 0.4, wean PEEP. Will attempt diuresis if stable
   off pressors  x 12 hours. On Vanc/[**Last Name (un) 430**]/cipro pending speciation of
   sputum culture - suspect
   fever [**12-15**] to VAP but obviously pancreatic necrosis is a possibility.
   Troponin peaked no need to follow any longer. Further plans as per
   resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2182-11-12**] 08:39 PM 77 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   Multi Lumen - [**2182-11-9**] 10:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-16 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Fever to 101 overnight again.
   Sedation weaned throughout the day yesterday
   FiO2 weaned yesterday.
   Moderate, white secretions this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2182-11-15**] 04:00 AM
   Vancomycin - [**2182-11-15**] 08:00 AM
   Ciprofloxacin - [**2182-11-15**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-15**] 04:00 PM
   Other medications:
   [**Last Name (LF) 7310**], [**First Name3 (LF) 369**],
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-16**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 119 (105 - 119) bpm
   BP: 193/110(139) {133/75(94) - 193/110(139)} mmHg
   RR: 29 (25 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  4,621 mL
                                                                  2,292 mL
   PO:
   TF:
   IVF:
                                                                  2,350 mL
                                                                  1,249 mL
   Blood products:
   Total out:
                                                                  7,405 mL
                                                                  1,515 mL
   Urine:
                                                                  7,205 mL
                                                                  1,515 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,784 mL
                                                                    777 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 28 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/51/81.[**Numeric Identifier 607**]/35/7
   Ve: 13.6 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ventilated BS, No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   218 K/uL
   145 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.7 mEq/L
   43 mg/dL
   109 mEq/L
   150 mEq/L
   32.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2182-11-14**]  02:47 AM
                             [**2182-11-14**]  08:29 PM
                             [**2182-11-15**]  02:55 AM
                             [**2182-11-15**]  03:03 AM
                             [**2182-11-15**]  02:08 PM
                             [**2182-11-15**]  03:57 PM
                             [**2182-11-15**]  06:33 PM
                             [**2182-11-16**]  12:09 AM
                             [**2182-11-16**]  03:48 AM
                             [**2182-11-16**]  04:00 AM
   WBC
   8.9
   11.3
   Hct
   30.5
   32.0
   Plt
   140
   218
   Cr
   1.3
   1.2
   TCO2
   28
   30
   33
   34
   35
   35
   34
   35
   Glucose
   119
   145
   Other labs: PT / PTT / INR:14.1/30.9/1.2, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:28/39, Alk Phos / T Bili:65/0.7,
   Amylase / Lipase:145/37, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.3
   g/dL, LDH:659 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: Persistent B/L effusions.  Tubes/lines in place
   Microbiology: Pan Culture pending
   Assessment and Plan
   63 year old man with severe pancreatitis and MODS. Now off pressors
   with improving renal function. Continues on low Vt/high PEEP
   ventilation.
    Respiratory Failure:  ARDS.  Oxygen requirement improving with
   aggressive diuresis
    -Wean PEEP as able today.  If able to reduce PEEP, will liberalize to
   PSV.
    -Continue Diuresis today and attempt to wean FiO2/PEEP
   Fever:  Thus far, has only sparse GNR in sputum culture, currently
   without secretions.  Still with low-grade fevers.  Seems most likely
   related to persistent SIRS from pancreatitis.
    -Follow up pan culture results, hold on abx for now.
    -Low threshold for restarting abx and considering abd CT to look for
   phlegmon/pseudocyst.
   HTN:  Now hypertensive off home anti-hypertensives.
     -Add back metoprolol, continue to hold ACE-I during aggressive
   diuresis
   Fluids:  Hope to allow net daily diuresis as tolerated by BP and renal
   function.
    Pancreatitis:  Continue supportive care.  Likely cholecystectomy in
   the future.
    Renal Failure:  GFR continues to improve, continue supportive care.
    Ileus:  Secondary to severe pancreatitis.  Bowel sounds present today.
     -Continue TPN for now. Monitor OGT output.
    FEN:  On TPN, will continue for now.
     -Got D5W for hypernatremia, repeat lytes this PM
     -Adjust TPN to keep up with K and phos requirements
    Access:  PICC
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2182-11-15**] 05:05 PM 104 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   Multi Lumen - [**2182-11-9**] 10:22 PM
   PICC Line - [**2182-11-14**] 04:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-11-17 10:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tmax of 102.0 overnight.
   IV sedation weaned yesterday but a little agitated overnight and
   hypertension and overbreathing so sedation increased.
   FiO2 and PEEP weaned yesterday.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2182-11-15**] 04:00 AM
   Vancomycin - [**2182-11-15**] 08:00 AM
   Ciprofloxacin - [**2182-11-15**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 6 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-17**] 12:30 AM
   Metoprolol - [**2182-11-17**] 06:16 AM
   Other medications:
   Peridex, ASA, fentanyl patch, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-17**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.9
C (98.5
   HR: 105 (94 - 121) bpm
   BP: 167/87(114) {116/67(84) - 178/99(125)} mmHg
   RR: 34 (21 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 16 (6 - 339)mmHg
   Total In:
                                                                  7,131 mL
                                                                  2,499 mL
   PO:
   TF:
   IVF:
                                                                  2,793 mL
                                                                  1,370 mL
   Blood products:
   Total out:
                                                                  5,390 mL
                                                                  2,930 mL
   Urine:
                                                                  5,290 mL
                                                                  2,930 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,741 mL
                                                                   -431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 20 cmH2O
   SpO2: 93%
   ABG: 7.51/46/64/37/11
   Ve: 13.5 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Bronchial: At L base.)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   263 K/uL
   104 mg/dL
   1.2 mg/dL
   37 mEq/L
   3.2 mEq/L
   41 mg/dL
   103 mEq/L
   146 mEq/L
   33.3 %
   13.5 K/uL
        [image002.jpg]
                             [**2182-11-15**]  02:08 PM
                             [**2182-11-15**]  03:57 PM
                             [**2182-11-15**]  06:33 PM
                             [**2182-11-16**]  12:09 AM
                             [**2182-11-16**]  03:48 AM
                             [**2182-11-16**]  04:00 AM
                             [**2182-11-16**]  03:14 PM
                             [**2182-11-16**]  05:36 PM
                             [**2182-11-17**]  04:20 AM
                             [**2182-11-17**]  04:35 AM
   WBC
   11.3
   13.5
   Hct
   32.0
   33.3
   Plt
   218
   263
   Cr
   1.2
   1.2
   TCO2
   34
   35
   35
   34
   35
   36
   37
   38
   Glucose
   145
   104
   Other labs: PT / PTT / INR:14.1/30.9/1.2, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:28/39, Alk Phos / T Bili:65/0.7,
   Amylase / Lipase:145/37, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.3
   g/dL, LDH:659 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR:  ETT/line in good position.  Unchanged B/L effusions.
   Microbiology: BCx:  Pending
   BCx ([**11-15**]):  NGTD
   UCx:  NGTD
   Sputum Cx: 1+GPC, Cx pending
   Assessment and Plan
   63 year old man with severe pancreatitis and MODS. Now off pressors
   with improving renal function. Continues on low Vt/high PEEP
   ventilation.
    Respiratory Failure:  ARDS.  Oxygen requirement improving.
   -Wean PEEP as able today.  If able to reduce PEEP, will liberalize to
   PSV.
   -Continue Diuresis today and attempt to wean FiO2/PEEP
   -If alkalosis continues, will decrease minute ventilation
    Fever:  Fever curve trending up, now developing leukocytosis.
   -Follow up pan culture results
   -Will restart Vanco/Meropenem for now
   -Abd CT to assess for phlegmon/pseudocyst/necrosis.  Chest CT.
    HTN:  Now hypertensive off home anti-hypertensives.
      -Increase metrorolol.
    Pancreatitis:  Continue supportive care.  Likely cholecystectomy in
   the future.
    Renal Failure:  GFR at baseline, continue supportive care.
    Ileus:  Secondary to severe pancreatitis.  Bowel sounds present today.
   -Continue TPN for now. Monitor OGT output.
    FEN:  On TPN, will continue for now.
   -Hypernatremia improved, continue to monitor
   -Adjust TPN to keep up with K and phos requirements
    Access:  PICC
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2182-11-16**] 06:05 PM 112 mL/hour
   Glycemic Control:  Insulin in TPN and insulin infusion
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   Multi Lumen - [**2182-11-9**] 10:22 PM
   PICC Line - [**2182-11-14**] 04:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-18 11:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains febrile.  Underwent non-contrast CT yesterday.  Sedation
   changed to propofol yesterday.
   Some dysynchrony with the vent this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2182-11-18**] 06:00 AM
   Vancomycin - [**2182-11-18**] 08:30 AM
   Infusions:
   Fentanyl - 40 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 6 mg/hour
   Insulin - Regular - 4 units/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2182-11-18**] 06:12 AM
   Heparin Sodium (Prophylaxis) - [**2182-11-18**] 08:00 AM
   Other medications:
   Atrovent, pantoprazole, HSQ, peridex, ASA,  metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-18**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.4
C (101.2
   HR: 104 (77 - 120) bpm
   BP: 111/65(80) {96/54(68) - 140/73(88)} mmHg
   RR: 32 (19 - 39) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 16 (14 - 16)mmHg
   Total In:
                                                                  5,794 mL
                                                                  2,314 mL
   PO:
   TF:
   IVF:
                                                                  3,078 mL
                                                                  1,118 mL
   Blood products:
   Total out:
                                                                  6,200 mL
                                                                  2,265 mL
   Urine:
                                                                  6,200 mL
                                                                  2,155 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                   -406 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 120 (0 - 120) mL
   RR (Set): 26
   RR (Spontaneous): 10
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.49/46/72/35/10
   Ve: 13.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished: at
   bases)
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   298 K/uL
   86 mg/dL
   1.3 mg/dL
   35 mEq/L
   3.7 mEq/L
   45 mg/dL
   101 mEq/L
   142 mEq/L
   30.8 %
   12.9 K/uL
        [image002.jpg]
                             [**2182-11-16**]  12:09 AM
                             [**2182-11-16**]  03:48 AM
                             [**2182-11-16**]  04:00 AM
                             [**2182-11-16**]  03:14 PM
                             [**2182-11-16**]  05:36 PM
                             [**2182-11-17**]  04:20 AM
                             [**2182-11-17**]  04:35 AM
                             [**2182-11-17**]  12:22 PM
                             [**2182-11-18**]  03:50 AM
                             [**2182-11-18**]  04:12 AM
   WBC
   11.3
   13.5
   12.9
   Hct
   32.0
   33.3
   30.8
   Plt
   [**Telephone/Fax (3) 7333**]
   Cr
   1.2
   1.2
   1.3
   TCO2
   34
   35
   36
   37
   38
   36
   36
   Glucose
   145
   104
   187
   86
   Other labs: PT / PTT / INR:14.1/30.9/1.2, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:28/39, Alk Phos / T Bili:65/0.7,
   Amylase / Lipase:145/37, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.3
   g/dL, LDH:659 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Imaging: CT torso: B/L pleural effusions with atelectasis.
   Peripancreatic stranding.  No bowel wall thickening.  No clear
   phlegmon/abscess
   Microbiology: BCx:  pending
   Sputum:  Rare GNR.
   UCx: NGTD
   Assessment and Plan
   63 year old man with severe pancreatitis and MODS. Now off pressors
   with improving renal function. Continues on low Vt/high PEEP
   ventilation.
    Respiratory Failure:  ARDS.  Oxygen requirement improving.
   Dysynchronous today, seemed to be doing better on PSV earlier this AM
   -Will switch to PSV today as his CT/CXR suggest that ARDS is now
   resolved.
   -Continue Diuresis today and attempt to wean FiO2/PEEP
   -Monitor alkalosis and decrease PSV if needed.
    Fever:  Fever curve trending up, now developing leukocytosis.  Abd CT
   (I-) with no clear source.
   -Follow up pan culture results
   -Send fungal cultures given TPN usage.
   -Add LFT's, consider RUQ U/S if abnormal
   -Will continue Vanco/Meropenem for now
   -Resite CVC and a-line.  If fevers still persist, will consider d/c
   PICC.
   -Review Abd CT with radiology
was done w/o contrast.  Review with
   radiology but likely will need repeat with contrast if they feel limits
   study.
   -Consider LENI's if above work up is negative.
    HTN:  Now hypertensive off home anti-hypertensives.
     -Increase metroprolol.
    Pancreatitis:  Continue supportive care.  Likely will require
   cholecystectomy in the future.
    Renal Failure:  GFR at baseline, continue supportive care.
    Ileus:  Secondary to severe pancreatitis.  Bowel sounds present today.
    -Continue TPN for now. Monitor OGT output.
    FEN:  On TPN, will continue for now.
   -Hypernatremia improved, continue to monitor
   -TPN
    Access:  PICC
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2182-11-17**] 05:52 PM 112 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   Multi Lumen - [**2182-11-9**] 10:22 PM
   PICC Line - [**2182-11-14**] 04:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2182-11-19 09:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Repeat Abd CT with contrast yesterday
   New L IJ line placed, R IJ line removed
   Placed on A/C overnight due to persistent tachypnea on PSV.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2182-11-19**] 06:00 AM
   Vancomycin - [**2182-11-19**] 08:00 AM
   Infusions:
   Insulin - Regular - 5.5 units/hour
   Furosemide (Lasix) - 12 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2182-11-19**] 12:00 AM
   Fentanyl - [**2182-11-19**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-11-19**] 08:00 AM
   Other medications:
   Atrovent, Pantoprazole, Peridex, ASA, Metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-19**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 109 (84 - 115) bpm
   BP: 117/71(86) {85/54(65) - 146/81(100)} mmHg
   RR: 31 (10 - 47) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 8 (7 - 21)mmHg
   Total In:
                                                                  4,904 mL
                                                                  2,125 mL
   PO:
   TF:
   IVF:
                                                                  2,332 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  5,005 mL
                                                                  2,480 mL
   Urine:
                                                                  4,885 mL
                                                                  2,400 mL
   NG:
                                                                    120 mL
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                   -101 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 800) mL
   PS : 15 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 93%
   ABG: 7.46/50/72/33/9
   Ve: 13.3 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : Ventilated BS)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   338 K/uL
   109 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.0 mEq/L
   50 mg/dL
   103 mEq/L
   142 mEq/L
   33.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2182-11-16**]  05:36 PM
                             [**2182-11-17**]  04:20 AM
                             [**2182-11-17**]  04:35 AM
                             [**2182-11-17**]  12:22 PM
                             [**2182-11-18**]  03:50 AM
                             [**2182-11-18**]  04:12 AM
                             [**2182-11-18**]  01:32 PM
                             [**2182-11-18**]  03:34 PM
                             [**2182-11-19**]  03:42 AM
                             [**2182-11-19**]  04:40 AM
   WBC
   13.5
   12.9
   13.5
   Hct
   33.3
   30.8
   33.0
   Plt
   263
   298
   338
   Cr
   1.2
   1.3
   1.3
   TCO2
   37
   38
   36
   36
   38
   35
   37
   Glucose
   104
   187
   86
   109
   Other labs: PT / PTT / INR:14.1/30.9/1.2, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:57/98, Alk Phos / T Bili:119/1.9,
   Amylase / Lipase:145/37, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.2
   g/dL, LDH:659 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR:  ETT/new line in good position.  Persistent B/L
   effusions.
   Abd CT:  Pancreatic necrosis with no organized fluid collection.
   Microbiology: BCx:  Pending
   Fungal Cx: pending
   Cath tip: pending
   Assessment and Plan
   63 year old man with severe pancreatitis and MODS. Now off pressors
   with improving renal function. Continues on low Vt/high PEEP
   ventilation.
   Respiratory Failure:  ARDS, now resolving.  Tachypneic on PSV overnight
   but is alkalotic suggesting tachypnea is a secondary (?pain)
     -Trial of PSV again today.
     -Continue Diuresis today and attempt to wean FiO2/PEEP.  Will try to
   concentrate "in's".
     -Monitor alkalosis and increase fentanyl
   Fever:  Fever curve better today.  Repeat Abd CT (I+) shows extensive
   necrosis which could explain fever.  TLC changed yesterday.  PICC and
   a-line have not been changed.
     -Follow up pan culture results, including fungal
     -Mild LFT elevation but no evidence of cholecystitis/cholangitis on
   CT.
     -Will continue Vanco/Meropenem for now
    HTN:  Now hypertensive off home anti-hypertensives, although did have
   a brief period of hypotension yesterday.
     -Continue metoprolol
    Pancreatitis:  Continue supportive care.  Likely will require
   cholecystectomy in the future.
    Renal Failure:  GFR at baseline, continue supportive care. Monitor for
   change after contrast load.
    Ileus:  Secondary to severe pancreatitis.  Bowel sounds present today.
     -Continue TPN for now. Monitor OGT output.
     -Trial of reglan.
    FEN:  On TPN, will continue for now.
    -Hypernatremia improved, continue to monitor
     -TPN
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2182-11-18**] 07:00 PM 112 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   PICC Line - [**2182-11-14**] 04:50 PM
   20 Gauge - [**2182-11-18**] 03:22 PM
   Multi Lumen - [**2182-11-18**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-20 11:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tachypneic to the 40's  and hypertensive overnight on PSV.  Put on A/C
   without significant change.  Seemed to settle out as sedation was
   increased.
   Diuresed yesterday.
   OGT output still copious.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2182-11-20**] 06:00 AM
   Vancomycin - [**2182-11-20**] 08:15 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Furosemide (Lasix) - 17 mg/hour
   Other ICU medications:
   Metoprolol - [**2182-11-19**] 06:06 PM
   Pantoprazole (Protonix) - [**2182-11-20**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2182-11-20**] 08:21 AM
   Other medications:
   Atovent, Peridex, ASA, propofol, Reglan, fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-20**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 103 (92 - 123) bpm
   BP: 117/71(87) {80/56(64) - 141/87(105)} mmHg
   RR: 29 (20 - 42) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 18 (7 - 18)mmHg
   Total In:
                                                                  5,027 mL
                                                                  1,999 mL
   PO:
   TF:
   IVF:
                                                                  2,502 mL
                                                                  1,082 mL
   Blood products:
   Total out:
                                                                  6,160 mL
                                                                  2,150 mL
   Urine:
                                                                  6,000 mL
                                                                  1,850 mL
   NG:
                                                                    160 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,133 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 398) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 93%
   ABG: 7.44/54/89.[**Numeric Identifier 128**]/33/10
   Ve: 12.1 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ventilated BS)
   Abdominal: Soft, Non-tender, Distended, hypoactive BS
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   455 K/uL
   87 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.8 mEq/L
   55 mg/dL
   105 mEq/L
   147 mEq/L
   33.1 %
   15.7 K/uL
        [image002.jpg]
                             [**2182-11-18**]  01:32 PM
                             [**2182-11-18**]  03:34 PM
                             [**2182-11-19**]  03:42 AM
                             [**2182-11-19**]  04:40 AM
                             [**2182-11-19**]  11:08 AM
                             [**2182-11-19**]  03:40 PM
                             [**2182-11-19**]  09:42 PM
                             [**2182-11-20**]  03:22 AM
                             [**2182-11-20**]  03:37 AM
                             [**2182-11-20**]  05:28 AM
   WBC
   13.5
   15.7
   Hct
   33.0
   33.1
   Plt
   338
   455
   Cr
   1.3
   1.3
   1.3
   TCO2
   38
   35
   37
   36
   38
   38
   38
   Glucose
   109
   111
   87
   Other labs: PT / PTT / INR:13.6/23.7/1.2, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:90/135, Alk Phos / T Bili:223/1.0,
   Amylase / Lipase:145/37, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.2
   g/dL, LDH:659 IU/L, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR:  ETT/line in good position, improved aeration B/L with
   decreased effusions
   Microbiology: Fungal Cx: NGTD
   BCx: NGTD
   Assessment and Plan
   63 year old man with severe pancreatitis and MODS. Now off pressors
   with improving renal function. Continues on low Vt/high PEEP
   ventilation.
   Respiratory Failure:  ARDS, now resolving.  Tachypneic on PSV overnight
   which seemed sedation related.
     -Trial of PSV again today with wean of PEEP as able.
     -Continue Diuresis today.
     -Today is day 12 of intubation.  Will discuss with family likelihood
   of tracheostomy.
    Fever:  Fever curve improved again.  Repeat Abd CT (I+) shows
   extensive necrosis which could explain fever.  TLC changed [**11-18**].  PICC
   and a-line have not been changed.
     -Follow up pan culture results, including fungal
     -Mild LFT elevation but no evidence of cholecystitis/cholangitis on
   CT-->Will continue to monitor
     -Will continue Vanco/Meropenem for now
     HTN:  Now hypertensive off home anti-hypertensives, although did have
   a brief period of hypotension yesterday.
     -Continue metoprolol
    Pancreatitis:  Continue supportive care.  Likely will require
   cholecystectomy in the future.
    Renal Failure:  GFR at baseline, continue supportive care. Monitor for
   change after contrast load.
    Ileus:  Secondary to severe pancreatitis.  Bowel sounds present today.
     -Continue TPN for now. Monitor OGT output.
     -Increase reglan.
     -Trial of po narcan.
    FEN:  On TPN, will continue for now.
     -Sodium mildly up today, continue to monitor.  D5W PRN
     -TPN
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2182-11-19**] 06:00 PM 83.[**Telephone/Fax (5) 6137**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   PICC Line - [**2182-11-14**] 04:50 PM
   20 Gauge - [**2182-11-18**] 03:22 PM
   Multi Lumen - [**2182-11-18**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-22 09:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Tachypnea and desaturation this AM, PEEP and FiO2 increased
   Some bloody appearing OGT output overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-11-21**] 08:27 AM
   Meropenem - [**2182-11-22**] 05:05 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-11-22**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2182-11-22**] 08:00 AM
   Metoprolol - [**2182-11-22**] 08:15 AM
   Other medications:
   Atrovent, peridex, ASA, reglan, Fentanyl patch, po narcan,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-22**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.7
   HR: 103 (102 - 132) bpm
   BP: 105/69(82) {79/48(58) - 135/73(92)} mmHg
   RR: 32 (25 - 34) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 4 (4 - 15)mmHg
   Total In:
                                                                  4,481 mL
                                                                  1,413 mL
   PO:
   TF:
   IVF:
                                                                  2,279 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                  4,875 mL
                                                                  1,675 mL
   Urine:
                                                                  4,570 mL
                                                                  1,430 mL
   NG:
                                                                    305 mL
                                                                    245 mL
   Stool:
   Drains:
   Balance:
                                                                   -394 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 89%
   ABG: 7.43/49/67/32/6
   Ve: 12.3 L/min
   PaO2 / FiO2: 84
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ventilated BS, Diminished:
   at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   Hypoactive
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   407 K/uL
   131 mg/dL
   1.5 mg/dL
   32 mEq/L
   3.6 mEq/L
   82 mg/dL
   106 mEq/L
   145 mEq/L
   28.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2182-11-20**]  05:37 PM
                             [**2182-11-21**]  03:23 AM
                             [**2182-11-21**]  03:28 AM
                             [**2182-11-21**]  11:17 AM
                             [**2182-11-21**]  11:03 PM
                             [**2182-11-21**]  11:40 PM
                             [**2182-11-22**]  02:15 AM
                             [**2182-11-22**]  04:52 AM
                             [**2182-11-22**]  05:07 AM
                             [**2182-11-22**]  08:25 AM
   WBC
   15.1
   10.8
   Hct
   31.9
   28.1
   28.5
   Plt
   460
   407
   Cr
   1.7
   1.5
   TCO2
   37
   37
   36
   35
   35
   36
   34
   Glucose
   91
   131
   Other labs: PT / PTT / INR:13.6/26.3/1.2, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:85/103, Alk Phos / T Bili:232/0.8,
   Amylase / Lipase:145/37, Differential-Neuts:79.0 %, Band:7.0 %,
   Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.2
   g/dL, LDH:659 IU/L, Ca++:8.5 mg/dL, Mg++:2.8 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Vanco 26.1
   Imaging: CXR: ETT approx 6-7 cm from carina.  CVC  in place.  Unchanged
   Bibasilar atelectasis
   Microbiology: No new positive cultures
   Assessment and Plan
   63 year old man with severe pancreatitis and MODS. Now off pressors
   with improving renal function. Continues on low Vt/high PEEP
   ventilation.
   Respiratory Failure:  ARDS, now resolving.  Still with poor compliance
   likely from chest wall.
     -Wean down PEEP, FiO2 again.
     -Follow PaO2's rather than sat's
     -Continue diuresis if CVP allows
     -Today is day 14 of intubation.  Needs tracheostomy since continues
   to require mech vent.  Discuss at family meeting today.
   GIB:  Some bloody OGT output overnight
     -IV PPI
     -Check PM HCT, goal >25
     -Hold ASA
   Fever:  Fever curve improved again.  Repeat Abd CT (I+) shows extensive
   necrosis which could explain fever.  TLC changed [**11-18**].  PICC and a-line
   have not been changed.
     -Follow up pan culture results, including fungal
     -Mild LFT elevation but no evidence of cholecystitis/cholangitis on
   CT-->Will continue to monitor
     -Will continue Vanco/Meropenem for now
    Hypotension:  BP's marginal today, likely related to diuresis and high
   PEEP
     -Decrease PEEP again today
     -Gentle diuresis as above
     -Hold metoprol
    Pancreatitis:  Continue supportive care.  Likely will require
   cholecystectomy in the future.
   Renal Failure:  Creatinine trending down today.  Likely [**12-16**] contrast
   +/- diuresis
     -Renally dose meds.
     -Continue gentle diuresis
    Ileus:  Secondary to severe pancreatitis.  Bowel sounds present today.
     -Continue TPN for now. Monitor OGT output.
     -continue reglan/narcan
    FEN:  On TPN, will continue for now.
     -Sodium improved today, continue to monitor.  D5W PRN
     -TPN
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2182-11-21**] 05:56 PM 83.[**Telephone/Fax (5) 6137**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   PICC Line - [**2182-11-14**] 04:50 PM
   Multi Lumen - [**2182-11-18**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2182-11-25 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Had BM yesterday
   Trach'd today
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-11-22**] 08:30 PM
   Meropenem - [**2182-11-25**] 06:27 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-11-24**] 08:35 PM
   Fentanyl - [**2182-11-25**] 05:08 AM
   Heparin Sodium (Prophylaxis) - [**2182-11-25**] 08:00 AM
   Other medications:
   Atrovent, peridex, lasix drip, RISS, reglan, po narcan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-25**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 116 (100 - 120) bpm
   BP: 117/70(86) {94/59(70) - 149/82(104)} mmHg
   RR: 29 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 19 (15 - 25)mmHg
   Total In:
                                                                  5,230 mL
                                                                  1,521 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,641 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  5,725 mL
                                                                  2,460 mL
   Urine:
                                                                  5,725 mL
                                                                  2,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -495 mL
                                                                   -939 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: VOL/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 572) mL
   PS : 15 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.45/43/70/31/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : Ventilated BS)
   Abdominal: Soft, Bowel sounds present, Distended, Obese, Hypoactive BS
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   439 K/uL
   100 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.6 mEq/L
   53 mg/dL
   107 mEq/L
   143 mEq/L
   28.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2182-11-22**]  03:08 PM
                             [**2182-11-22**]  03:21 PM
                             [**2182-11-23**]  04:09 AM
                             [**2182-11-23**]  04:19 AM
                             [**2182-11-23**]  01:57 PM
                             [**2182-11-23**]  03:35 PM
                             [**2182-11-23**]  06:57 PM
                             [**2182-11-24**]  03:53 AM
                             [**2182-11-24**]  11:47 AM
                             [**2182-11-25**]  03:59 AM
   WBC
   10.1
   11.8
   12.1
   Hct
   27.0
   26.4
   30.0
   28.5
   Plt
   393
   510
   439
   Cr
   1.3
   1.2
   1.1
   1.1
   TCO2
   34
   35
   31
   32
   31
   Glucose
   90
   94
   100
   Other labs: PT / PTT / INR:15.2/30.8/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:72/85, Alk Phos / T Bili:231/0.7,
   Amylase / Lipase:145/37, Differential-Neuts:68.7 %, Band:7.0 %,
   Lymph:20.8 %, Mono:6.1 %, Eos:3.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   Imaging: CXR: ETT/CVC in place.  bibasilar infiltrates ?atelectasis.
   Microbiology: BCx:  NGTD
   Assessment and Plan
   63 yo M initally presented with severe gallstone pancreatitis, course
   c/b ARDS, renal failure and shock.  Shock and renal failure now
   resolved.
   Respiratory Failure: Resolved ARDS. Now problems include atelectasis,
   abdominal distention, volume overload.  Now s/p trach.
     -Continue diuresis, goal CVP <6
     -Once sedation from trach is worn off, PSV trial with weaning
   Ileus:  Had BM over the weekend
     -Continue TPN for now but will challenge with TF today in addition.
     -Continue reglan and po narcan.
   Renal Failure:  GFR back to baseline.
   Fever:  Curve significantly better on antibiotics.  Will continue for
   now.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2182-11-24**] 05:15 PM [**Telephone/Fax (5) 7453**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   PICC Line - [**2182-11-14**] 04:50 PM
   Multi Lumen - [**2182-11-18**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-26 10:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Successul tracheostomy yesterday.  Weaned off proprofol entirely.
   Ventilator support weaned to [**3-18**].
   TF started yesterday at low rate
   Diuresed well overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2182-11-26**] 06:16 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2182-11-26**] 06:16 AM
   Lansoprazole (Prevacid) - [**2182-11-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-11-26**] 08:00 AM
   Other medications:
   Atrovent, peridex, reglan, fentanyl patch, lopressor, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-26**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 117 (81 - 117) bpm
   BP: 147/83(104) {91/61(71) - 155/109(117)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 17 (15 - 18)mmHg
   Total In:
                                                                  3,543 mL
                                                                  1,389 mL
   PO:
   TF:
                                                                    113 mL
                                                                     99 mL
   IVF:
                                                                    934 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  5,800 mL
                                                                  1,940 mL
   Urine:
                                                                  5,800 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,257 mL
                                                                   -551 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 542 (0 - 990) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.44/49/91/31/7
   Ve: 10.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : Ventilated BS)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   500 K/uL
   183 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   53 mg/dL
   105 mEq/L
   142 mEq/L
   29.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2182-11-23**]  03:35 PM
                             [**2182-11-23**]  06:57 PM
                             [**2182-11-24**]  03:53 AM
                             [**2182-11-24**]  11:47 AM
                             [**2182-11-25**]  03:59 AM
                             [**2182-11-25**]  04:32 PM
                             [**2182-11-25**]  08:04 PM
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
   WBC
   11.8
   12.1
   11.2
   Hct
   30.0
   28.5
   29.8
   Plt
   [**Telephone/Fax (3) 7461**]
   Cr
   1.2
   1.1
   1.1
   1.1
   TCO2
   32
   31
   32
   34
   34
   34
   Glucose
   94
   100
   183
   Other labs: PT / PTT / INR:15.2/30.8/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:69/74, Alk Phos / T Bili:251/0.9,
   Amylase / Lipase:145/37, Differential-Neuts:68.7 %, Band:7.0 %,
   Lymph:20.8 %, Mono:6.1 %, Eos:3.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.4
   mg/dL
   Imaging: CXR:  Trach in place, CVC in SVC.  PICC in place.  Persistent
   bibasilar infiltrates
   Assessment and Plan
   63 yo M initally presented with severe gallstone pancreatitis, course
   c/b ARDS, renal failure and shock.  Shock and renal failure now
   resolved.
   Respiratory Failure: Resolved ARDS. Now problems include atelectasis,
   abdominal distention, volume overload.  Now s/p trach.  Vent
   requirements remarkably improved after sedation lightened.
     -Continue diuresis, goal CVP <6
     -Trach collar trial today.
    Ileus:  Had BM over the weekend
     -Increase TF gradually.  If tolerates TF, will being to decrease TPN
   in the future.
     -Continue reglan and po narcan.
   Altered mental status:  Most likely related to long term sedation with
   some degree of ICU delirium.
     -Will continue to monitor off sedation.  No plans for head imaging at
   this point, but if he continues to not interact after a few days-->head
   CT.
     -Decrease fentanyl patch and will try to hold PRN doses.
    Renal Failure:  GFR back to baseline.
    Fever:  Still with low grade fevers.
     -Pan culture today
     -D/c a line
     -Will d/c meropenem today as he has completed >14 days for necrotic
   pancreas.  Observe fever curve off of abx.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-11-25**] 12:41 PM 10 mL/hour
   TPN without Lipids - [**2182-11-25**] 02:30 PM [**Telephone/Fax (5) 7453**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2182-11-9**] 10:18 PM
   PICC Line - [**2182-11-14**] 04:50 PM
   Multi Lumen - [**2182-11-18**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-27 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned off ventilator yesterday then place back on PSV overnight for
   tachypnea/tachycardia
   Spiked fever to 102 overnight.  Meropenem had been stopped earlier in
   the day.
   Copious, thick yellow secretions this AM.  Did not tolerate wean from
   [**8-18**] to [**3-18**] this AM (tachypnea).
   TF increased to 50cc/hr this AM.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2182-11-26**] 06:16 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2182-11-26**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2182-11-27**] 12:00 AM
   Other medications:
   Reglan, lansoprazole, RISS, fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-27**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.9
C (100.3
   HR: 113 (97 - 129) bpm
   BP: 122/80(89) {106/68(76) - 141/97(105)} mmHg
   RR: 25 (21 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 7 (7 - 17)mmHg
   Total In:
                                                                  3,431 mL
                                                                  1,643 mL
   PO:
   TF:
                                                                    421 mL
                                                                    348 mL
   IVF:
                                                                    414 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  5,115 mL
                                                                  1,280 mL
   Urine:
                                                                  5,115 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,684 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 588 (496 - 588) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.50/41/69/30/7
   Ve: 17 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   521 K/uL
   297 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.1 mEq/L
   57 mg/dL
   104 mEq/L
   144 mEq/L
   32.4 %
   13.1 K/uL
        [image002.jpg]
                             [**2182-11-24**]  11:47 AM
                             [**2182-11-25**]  03:59 AM
                             [**2182-11-25**]  04:32 PM
                             [**2182-11-25**]  08:04 PM
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
   WBC
   12.1
   11.2
   13.1
   Hct
   28.5
   29.8
   32.4
   Plt
   439
   500
   521
   Cr
   1.1
   1.1
   1.2
   TCO2
   31
   32
   34
   34
   34
   34
   33
   Glucose
   100
   183
   297
   Other labs: PT / PTT / INR:15.2/30.8/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:66/62, Alk Phos / T Bili:246/0.8,
   Amylase / Lipase:145/37, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL,
   LDH:423 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR:  None yet today.
   Microbiology: BCx:  pending
   Sputum:  2+ GPC in pairs
   Assessment and Plan
   63 yo M initally presented with severe gallstone pancreatitis, course
   c/b ARDS, renal failure and shock.  Shock and renal failure now
   resolved.  On minimal vent support at present.
   Respiratory Failure: Resolved ARDS. Now problems include atelectasis,
   abdominal distention, volume overload, and possible VAP.  Now s/p
   trach.  Back on the vent overnight.
     -Check CXR
     -Continue diuresis, goal CVP <6
     -Wean PSV as able today
   Fever:  Fever curve up overnight.  Has been off vanc for 3 days,
   meropenem stopped yesterday.  PICC in place since [**11-14**], CVC since [**11-18**].
   GPC now in sputum.
     -follow up pan culture from yesterday
     -D/c PICC line
     -F/u CXR as above
     -Restart Vancomycin with goal levels of 15-20.  Empiric zosyn/cipro.
   Ileus:  Had BM over the weekend, tolerating TF advancement
     -Discuss with nutrition regarding weaning TPN as TF rate increases.
     -Continue reglan
   Altered mental status:  Most likely related to long term sedation with
   some degree of ICU delirium.
     -Will continue to monitor off sedation.  No plans for head imaging at
   this point, but if he continues to not interact-->head CT.
     -Minimize sedating meds
    Renal Failure:  GFR back to baseline.
   Diabetes:  Likely sequelae of pancreatic necrosis.
     -Initiate long acting insulin as TPN weaned off.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2182-11-26**] 06:00 PM 104 mL/hour
   Replete with Fiber (Full) - [**2182-11-26**] 10:52 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2182-11-14**] 04:50 PM
   Multi Lumen - [**2182-11-18**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-28 10:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   PICC line d/c'd
   Weaned to trach collar yesterday but ultimately went back on PSV for
   tachypnea
   Vanco/Zosyn/Cipro started yesterday.
   Secretions remain copious today.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2182-11-26**] 06:16 AM
   Ciprofloxacin - [**2182-11-28**] 12:40 AM
   Vancomycin - [**2182-11-28**] 12:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-11-28**] 02:00 AM
   Infusions:
   Insulin - Regular - 6.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-28**] 07:57 AM
   Other medications:
   Atrovent, reglan, lansoprazole, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-28**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.7
C (99.9
   HR: 114 (103 - 131) bpm
   BP: 115/73(81) {90/65(74) - 141/86(100)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 7 (4 - 13)mmHg
   Total In:
                                                                  3,837 mL
                                                                  1,822 mL
   PO:
   TF:
                                                                  1,323 mL
                                                                    733 mL
   IVF:
                                                                    991 mL
                                                                  1,039 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                  1,060 mL
   Urine:
                                                                  3,180 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    657 mL
                                                                    762 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (441 - 667) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 16.9 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ventilated BS.)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   419 K/uL
   114 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.8 mEq/L
   53 mg/dL
   110 mEq/L
   150 mEq/L
   31.5 %
   14.1 K/uL
        [image002.jpg]
                             [**2182-11-25**]  03:59 AM
                             [**2182-11-25**]  04:32 PM
                             [**2182-11-25**]  08:04 PM
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
   WBC
   12.1
   11.2
   13.1
   14.1
   Hct
   28.5
   29.8
   32.4
   31.5
   Plt
   439
   500
   521
   419
   Cr
   1.1
   1.1
   1.2
   1.3
   TCO2
   32
   34
   34
   34
   34
   33
   Glucose
   100
   183
   297
   114
   Other labs: PT / PTT / INR:15.2/30.8/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:66/62, Alk Phos / T Bili:246/0.8,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.3
   mg/dL
   Imaging: CXR:  Trach/CVC in place.  Bibasilar infiltrates largely
   unchanged
   Microbiology: sputum GS:  GPC in pairs, Cx pending
   PICC tip:  pending
   Assessment and Plan
   63 yo M initally presented with severe gallstone pancreatitis, course
   c/b ARDS, renal failure and shock.  Shock and renal failure now
   resolved.  Still requiring mechanical ventilation at times.
   Respiratory Failure: Resolved ARDS. Now problems include atelectasis,
   abdominal distention, volume overload, and possible VAP.  Now s/p
   trach.  Back on the vent overnight.
     -Continue diuresis, goal CVP <6
     -Wean PSV as able today
   Fever:  Fever curve improved overnight but still febrile. WBC also up.
   Possible sources include VAP, line infection or infected necrotic
   pancreas
     -follow up pan culture from yesterday
     -continue antibiotics for now
     -Will try to place peripherals, if not will place new CVC.
     -Repeat Abd CT to look for abdominal source for fevers.
     -Based on above, likely surgical consult
   Ileus:  Had BM over the weekend, tolerating TF advancement
     -Continue off TPN, on TF..
     -Continue reglan
   Altered mental status:  Most likely related to long term sedation with
   some degree of ICU delirium. A little more interactive today (opening
   eyes to voice).
     -Will continue to monitor off sedation.  No plans for head imaging at
   this point, but will consider if no improvement.
     -Minimize sedating meds, remove fentanyl patch.
    Renal Failure:  Premedicate with mucomyst and IV bicarb.
   Diabetes:  Likely sequelae of pancreatic necrosis.
     -Initiate long acting insulin and try to wean IV insulin
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-11-28**] 08:20 AM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2182-11-18**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill.

2182-11-29 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- left IJ pulled, sent for culture; PIVs placed
   -- had abd CT; pancreatic necrosis, no fluid collection (prelim read)
   -- was on trach collar in evening; suctioned and became tachypneic,
   etc. --> they put him back on PS
   -- had BMs overnight
   -- remains febrile
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-11-28**] 10:00 AM
   Ciprofloxacin - [**2182-11-29**] 12:00 AM
   Vancomycin - [**2182-11-29**] 12:58 AM
   Piperacillin - [**2182-11-29**] 02:10 AM
   Infusions:
   Insulin - Regular
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-29**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.8
   HR: 106 (95 - 120) bpm
   BP: 119/77(85) {94/55(62) - 132/87(94)} mmHg
   RR: 28 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  4,988 mL
                                                                  1,388 mL
   PO:
   TF:
                                                                  1,321 mL
                                                                    566 mL
   IVF:
                                                                  3,107 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                    940 mL
   Urine:
                                                                  2,820 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,168 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 486 (441 - 6,000) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 15.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   309 K/uL
   9.5 g/dL
   182 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.2 mEq/L
   41 mg/dL
   107 mEq/L
   147 mEq/L
   28.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2182-11-25**]  04:32 PM
                             [**2182-11-25**]  08:04 PM
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   Hct
   29.8
   32.4
   31.5
   28.6
   Plt
   [**Telephone/Fax (3) 7515**]09
   Cr
   1.1
   1.2
   1.3
   1.2
   TCO2
   32
   34
   34
   34
   34
   33
   Glucose
   183
   297
   114
   182
   Other labs: PT / PTT / INR:15.4/21.0/1.4, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:143/104, Alk Phos / T Bili:320/0.7,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.7
   mg/dL
   Imaging: [**11-29**] CXR
   interval removal of LIJ line, slightly worsened effusions, no
   significant change
   .
   [**11-28**] CT A/P:
   PFI: Persistent extensive pancreatic necrosis without focal fluid
   collection.
   No significant change.
   .
   [**11-28**] CXR
   Interval development of opacity lateral to right lower lobe atelectasis
   represents developing atelectasis, pneumonia, or aspiration. Interval
   improvement in bibasilar atelectasis.
   Microbiology: [**11-28**] cath tip LIJ : PND
   [**11-27**] cath tip PICC: prelim NGTD
   [**11-26**] a-line: no growth final
   [**11-26**] sputum: mod growth oropharyngeal flora
   [**11-26**] BCx:
   [**11-26**] UCx: Negative
   Assessment and Plan
   Mr. [**Known lastname 7311**] is a 63 year old male with extensive cardiac history,
   admitted with severe gallstone pancreatitis complicated by extensive
   pancreatic necrosis, ARDS, and prolonged ileus, and fever.
    #) Failure to Wean, Respiratory failure
 gets occassionally
   tachypneic with trach collar.
   -- cont to wean PSV as tolerated to trach collar
   -- now off all sedation
   #) Mental status
 has been persistently altered since d/cing sedation;
   opens eyes to voice; still not moving limbs, however.
   -- cont to monitor, slow recovery, defer head imaging
   #) Fever , likely necrotic pancreas: Spiking through vanc/zosyn/cipro.
   Fever recurred shortly after vanco d/c
ed on [**11-23**]; [**Last Name (un) 430**] d/c
ed [**11-26**]
   after 15 day course.  Pancultured [**11-26**], with nothing growing from
   cultures. CXR without obvious infiltrate. Lines have been d/c
   Repeat CT abdomen with no fluid collection but extensive necrosisi
   persists. Drug fever is on the differential as he was never truly off
   of all antibiotics for any significant period of time, and LFTs have
   elevated while on antibiotics.
   -- no evidence of HAP/VAP
 would scale back coverage today to infected
   necrotic panc coverage (ID c/s)
   -- [**Doctor First Name 458**] c/s
   -- ID consult
   -- f/u all remaining cultures
    #) Ileus: had large BM [**11-25**], then none until [**11-28**]. Now appears to be
   resolving. TF at goal.
   -- d/c reglan
   -- prn bowel regimen
   #) Hypernatremia:
   -- improved bowel function, would give FWB throught NGT
   -- check Na [**Hospital1 **]
   #) Hyperglycemia: has had high sugars since being taken off TPN.
   -- uptitrate NPH from 40 units [**Hospital1 **] to 50 units [**Hospital1 **] or more depending on
   total insulin needed yesterday
   -- d/c insulin drip
   #_ Transaminitis: trending up with resumption of antibiotics argues for
   medication effect
   -- trend
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-11-29**] 03:56 AM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2182-11-28**] 12:11 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   General: trached, opens eyes to voice, otherwise non-responsive
   Lungs: CTA b/l anteriorly
   Cardio: RRR no m/r/g/
   Abd: + BS, soft, NTND, obese
   Extremities: 2+ UE edema, no LE edema
   Skin: no rashes, no petechiae
   Neuro: opens eyes to name, but does not blink to threat; no movement of
   limbs to pain
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 842**], MD
   on:[**2182-11-29**] 08:45 ------

2182-11-29 09:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Central line pulled, peripheral IV's placed
   Went for Abd CT.
   Tolerated trach collar for a few hours yesterday.
   Having BM's
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-11-28**] 10:00 AM
   Ciprofloxacin - [**2182-11-29**] 12:00 AM
   Vancomycin - [**2182-11-29**] 12:58 AM
   Piperacillin - [**2182-11-29**] 02:10 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-29**] 08:00 AM
   Other medications:
   NAC, Senna, NPH, Atrovent, Reglan, prevacid, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-29**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.9
   HR: 108 (95 - 120) bpm
   BP: 129/86(96) {94/55(62) - 132/87(96)} mmHg
   RR: 31 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,988 mL
                                                                  1,643 mL
   PO:
             TF:
                                                                  1,321 mL
                                                                    670 mL
   IVF:
                                                                  3,107 mL
                                                                    693 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                  1,100 mL
   Urine:
                                                                  2,820 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,168 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 486 (486 - 6,000) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 15.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : Ventilated BS)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   309 K/uL
   182 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.2 mEq/L
   41 mg/dL
   107 mEq/L
   147 mEq/L
   28.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2182-11-25**]  04:32 PM
                             [**2182-11-25**]  08:04 PM
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   Hct
   29.8
   32.4
   31.5
   28.6
   Plt
   [**Telephone/Fax (3) 7515**]09
   Cr
   1.1
   1.2
   1.3
   1.2
   TCO2
   32
   34
   34
   34
   34
   33
   Glucose
   183
   297
   114
   182
   Other labs: PT / PTT / INR:15.4/21.0/1.4, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:143/104, Alk Phos / T Bili:320/0.7,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.7
   mg/dL
   Imaging: Abd CT(prelim): Persistent extensive necrosis
   CXR:  Trach in place. CVC removed.  Persistent Bibasilar infiltrates
   Microbiology: Cath tip x2: NGTD
   Sputum Cx:  O/P flora
   Assessment and Plan
   63 yo M initally presented with severe gallstone pancreatitis, course
   c/b ARDS, renal failure and shock.  Shock and renal failure now
   resolved.  Still requiring mechanical ventilation at times.
    Respiratory Failure: Resolved ARDS. Now problems include atelectasis,
   abdominal distention, volume overload, and possible VAP.  Now s/p
   trach.  Back on the vent overnight.
     -Continue diuresis today, goal CVP <6
     -Trach collar trial today
    Fever:  Fever curve improved overnight but still febrile.  Negative
   sputum cultures argue against VAP, doubt line infection but line still
   pulled.
      -follow up pan culture and cath tip cultures
     -continue antibiotics for now
     -Will ask surgery to see patient out of concern for possible infected
   necrotic pancreas
     -ID consult with ? of appropriate abx for infected pancreas and
   appropriate duration
     -Follow up Abd CT read although preliminarily no collection seen.
    Ileus/FEN:  Had BM over the weekend, TF at goal with minimal residuals
     -Continue off TPN, on TF.
     -D/C reglan
     -[**Month (only) 60**] need pancreatic enzyme replacement.
    Altered mental status:  Most likely related to long term sedation with
   some degree of ICU delirium. A little more interactive today (opening
   eyes to voice, moving extremities spontaneously).
     -Will continue to monitor off sedation.  No plans for head imaging at
   this point, but will consider if no improvement.
     -Minimize sedating meds
     Renal Failure:  Premedicated with mucomyst and IV bicarb.
      -Monitor Cr after contrast load.
    Diabetes:  Likely sequelae of pancreatic necrosis.
     -Initiate long acting insulin and try to wean IV insulin
   Transaminitis:  Trending up after restarting broad abx.
     -If continues to rise, consider RUQ U/S.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-11-29**] 03:56 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-11-28**] 12:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-11-30 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - On trach collar most of day
   - lasix gtt on board but did not achieve effective diuresis
   - surgery saw, left note which stated they deferred the consult to the
   pancreatic surgeon, Dr. [**Last Name (STitle) 2346**], who has not left note yet
   - Family came in, updated.  They requested a CT head out of concern for
   mental status
   This AM, appears comfortable and much more alert, tracks around room,
   smiles, shuts eyes on command, gives faint R hand squeeze.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-11-28**] 10:00 AM
   Vancomycin - [**2182-11-29**] 11:26 PM
   Ciprofloxacin - [**2182-11-30**] 12:16 AM
   Piperacillin - [**2182-11-30**] 02:31 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-30**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 118 (92 - 124) bpm
   BP: 139/89(98) {105/67(75) - 145/91(104)} mmHg
   RR: 25 (13 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,282 mL
                                                                  1,211 mL
   PO:
             TF:
                                                                  1,818 mL
                                                                    552 mL
   IVF:
                                                                  1,713 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,050 mL
   Urine:
                                                                  3,430 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    852 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (445 - 593) mL
   PS : 10 cmH2O
   RR (Set): 480
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 14.3 L/min
   Physical Examination
   General: trached, opens eyes to voice, smiles, follows simple commands
   Lungs: CTA b/l
   Cardio: RRR no m/r/g/
   Abd: soft, NTND, obese, hypoactive but present BS
   Extremities: 2+ UE edema, no LE edema
   Skin: no rashes, no petechiae
   Labs / Radiology
   366 K/uL
   10.6 g/dL
   225 mg/dL
   1.2 mg/dL
   33 mEq/L
   3.6 mEq/L
   38 mg/dL
   106 mEq/L
   147 mEq/L
   30.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2182-11-25**]  08:04 PM
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   Plt
   [**Telephone/Fax (3) 7515**]09
   366
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   TCO2
   34
   34
   34
   34
   33
   Glucose
   183
   297
   114
   182
   225
   Other labs: PT / PTT / INR:15.4/31.7/1.4, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:96/46, Alk Phos / T Bili:278/0.6,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   Imaging:
   None today
   [**11-29**] CXR
   IMPRESSION: No significant interval change of bibasilar atelectasis,
   however,
   pneumonia cannot be excluded in this region.
   Microbiology: [**11-28**] cath tip LIJ : prelim NGTD
   [**11-27**] cath tip PICC: prelim NGTD
   [**11-26**] a-line: no growth final
   [**11-26**] sputum: mod growth oropharyngeal flora
   [**11-26**] BCx:
   [**11-26**] UCx: Negative
   Assessment and Plan
   Mr. [**Known lastname 7311**] is a 63 year old male with extensive cardiac history,
   admitted with severe gallstone pancreatitis complicated by extensive
   pancreatic necrosis, ARDS, prolonged ileus, and fever.
    #) Failure to Wean, Respiratory failure
 doing well with slow
   progession to tolerating more trach collar.
   -- cont to wean PSV as tolerated to trach collar
   -- now off all sedation, does not appear to be in pain or distress
   #) Mental status
 has been persistently altered since d/cing sedation,
   but slowly improving.
   -- cont to monitor, slow recovery, defer head imaging given constant
   but slow improvement
   #) Fever - possibly necrotic pancreas: Spiking through
   vanc/zosyn/cipro. Fever recurred shortly after vanco d/c
ed on [**11-23**];
   [**Last Name (un) 430**] d/c
ed [**11-26**] after 15 day course.  Pancultured [**11-26**], with nothing
   growing from cultures. CXR without obvious infiltrate. Lines have been
   d/c
ed. Repeat CT abdomen with no fluid collection but extensive
   necrosis persists. Drug fever is on the differential as he was never
   truly off of all antibiotics for any significant period of time, and
   LFTs have elevated while on antibiotics.
   -- no evidence of HAP/VAP in sputum
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] c/s recs re: pancreatic necrosis as etiology and need for
   evacuation/debridement
   -- f/u all remaining cultures
   -- was 18L positive LOS after aggressive volume resuscitation, continue
   lasix gtt with goal -1L today
    #) Ileus: had large BM [**11-25**], then none until [**11-28**], when he had
   multiple BMs. Resolving. TF at goal with minimal residuals.
   -- prn bowel regimen
   #) Hypernatremia
 persistently at 147
   -- with improved bowel function, would increase FWB throught NGT
   -- check Na [**Hospital1 **]
   #) Hyperglycemia: has had high sugars since being taken off TPN.
   -- calculate total daily insulin requirement and uptitrate NPH [**Hospital1 **] as
   needed for better control
   #_ Transaminitis: trending up with resumption of antibiotics argues for
   medication effect
   -- trend
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-11-30**] 06:18 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2182-11-28**] 12:11 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2182-11-30 08:27:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2182-11-29**] 12:27 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-11-28**] 10:00 AM
   Vancomycin - [**2182-11-29**] 11:26 PM
   Ciprofloxacin - [**2182-11-30**] 12:16 AM
   Piperacillin - [**2182-11-30**] 02:31 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-30**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 118 (92 - 124) bpm
   BP: 139/89(98) {105/67(75) - 145/91(104)} mmHg
   RR: 25 (13 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,282 mL
                                                                  1,314 mL
   PO:
             TF:
                                                                  1,818 mL
                                                                    637 mL
   IVF:
                                                                  1,713 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,050 mL
   Urine:
                                                                  3,430 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    852 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (445 - 593) mL
   PS : 10 cmH2O
   RR (Set): 480
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 14.3 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trachesostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   366 K/uL
   225 mg/dL
   1.2 mg/dL
   33 mEq/L
   3.6 mEq/L
   38 mg/dL
   106 mEq/L
   147 mEq/L
   30.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2182-11-25**]  08:04 PM
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   Plt
   [**Telephone/Fax (3) 7515**]09
   366
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   TCO2
   34
   34
   34
   34
   33
   Glucose
   183
   297
   114
   182
   225
   Other labs: PT / PTT / INR:15.4/31.7/1.4, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:96/46, Alk Phos / T Bili:278/0.6,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   Assessment and Plan
   63 yo M initally presented with severe gallstone pancreatitis, course
   c/b ARDS, renal failure and shock.  Shock and renal failure now
   resolved.  Still requiring mechanical ventilation at times.
    Respiratory Failure: Resolved ARDS. Now problems include atelectasis,
   abdominal distention, volume overload, and possible VAP.  Now s/p
   trach.  Back on the vent overnight.
     -Continue diuresis today, goal CVP <6
     -Trach collar trial today
    Fever:  Fever curve improved overnight but still febrile.  Negative
   sputum cultures argue against VAP, doubt line infection but line still
   pulled.
      -follow up pan culture and cath tip cultures
     -continue antibiotics for now
     -Will ask surgery to see patient out of concern for possible infected
   necrotic pancreas
     -ID consult with ? of appropriate abx for infected pancreas and
   appropriate duration
     -Follow up Abd CT read although preliminarily no collection seen.
    Ileus/FEN:  Had BM over the weekend, TF at goal with minimal residuals
     -Continue off TPN, on TF.
     -D/C reglan
     -[**Month (only) 60**] need pancreatic enzyme replacement.
    Altered mental status:  Most likely related to long term sedation with
   some degree of ICU delirium. A little more interactive today (opening
   eyes to voice, moving extremities spontaneously).
     -Will continue to monitor off sedation.  No plans for head imaging at
   this point, but will consider if no improvement.
     -Minimize sedating meds
     Renal Failure:  Premedicated with mucomyst and IV bicarb.
      -Monitor Cr after contrast load.
    Diabetes:  Likely sequelae of pancreatic necrosis.
     -Initiate long acting insulin and try to wean IV insulin
   Transaminitis:  Trending up after restarting broad abx.
     -If continues to rise, consider RUQ U/S.
   Rest of plan per resident note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-11-30**] 06:18 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-11-28**] 12:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2182-11-30 12:32:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   63yo with acute gallstone pancreatitis complicated by ARDS, abdominal
   compartment syndrome, ARF (now resolved. s/p Vanc /Meropenem therapy.
   Now s/p tracheostomy.  with poor mental status, though gradually
   improving.  With persistent fevers --> s/p therapy for VAP, cultures
   persistently neg. concern for infected necrotic pancreas.
   24 Hour Events:
   - Surgical consult --> Have not commented on role for pancreatic biopsy
   today. Awaiting Dr.[**Name (NI) 7529**] input.
   - Patient tolerated trach collar yesterday during day, was  on PS at
   night. He is suctioned q2hrs for thick yellow
     secretions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-11-28**] 10:00 AM
   Ciprofloxacin - [**2182-11-30**] 12:16 AM
   Piperacillin - [**2182-11-30**] 10:24 AM
   Vancomycin - [**2182-11-30**] 11:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-11-30**] 12:00 AM
   Other medications:
   Prevacid
   Metop 25 q6hr
   ISS (16units yesterday)
   Insulin NPH 45 [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-11-30**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 123 (92 - 124) bpm
   BP: 119/81(90) {105/67(75) - 145/92(104)} mmHg
   RR: 28 (13 - 39) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,282 mL
                                                                  2,180 mL
   PO:
             TF:
                                                                  1,818 mL
                                                                    909 mL
   IVF:
                                                                  1,713 mL
                                                                    780 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,630 mL
   Urine:
                                                                  3,430 mL
                                                                  1,630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    852 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 461 (445 - 593) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 17 cmH2O
   SpO2: 93%
   ABG: ///33/
   Ve: 14.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, somnolent,
   lethargic, unresponsive.
   Cardiovascular: (RRR no m/r/g
   Peripheral Vascular:  warm and dry
   Respiratory / Chest: (Crackles : at sides)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Unresponsive, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   366 K/uL
   225 mg/dL
   1.2 mg/dL
   33 mEq/L
   3.6 mEq/L
   38 mg/dL
   106 mEq/L
   147 mEq/L
   30.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2182-11-25**]  08:04 PM
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   Plt
   [**Telephone/Fax (3) 7515**]09
   366
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   TCO2
   34
   34
   34
   34
   33
   Glucose
   183
   297
   114
   182
   225
   Other labs: PT / PTT / INR:15.4/31.7/1.4, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:96/46, Alk Phos / T Bili:278/0.6,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   Imaging: No new imaging
   Microbiology: CVC [**11-28**]= NGTD
   PICC [**11-26**]= NGTD
   Assessment and Plan
   63yo wth acute necrotizing pancreatitis, s/p trach with subacute mental
   status changes.
   1. ID-
       a) Vanc / Zosyn / Cipro since ([**11-26**]) , though has been on Abx since
   admission
             - Unclear source of infection, though likely necrotic
   pancreas. Await surgery consult for biopsy of pancreas. ? drug fever
                (no eos)
              - Define course of Abx
   2. Resp- on room air, still with atelelctasis
         - will start MIE to help with secretion clearance
         - No need to place back on PS at night unless patient not getting
   MIE than can use for recruitment.
   3.  Neuro- patient with slow cognitive function; likely due to severe
   illness.  Surgery team concerned of stroke and requested CT head for
   prognostication prior to any forseeable sugrical procedure.
         - will obtain Head CT
         - Consult Dr. [**Last Name (STitle) 7531**] re: Critical illness myopathy /
   neuropathy
   4. Renal-
       - Volume up +1L from yesterday.
       - Goal TBB -1L today
       - Follow pm electrolytes
       - Will increase FWF to 200cc q4hr
   5. GI-
       - Talk with nutrition about changing tube feeds given his
   pancreatitis.
   6. Endo- will titrate up his NPH given his daily requirements of ISS.
   7. ICU
        - Full
        - Acceess= periph
       - SQ heparin, PPI
   Dispo-
      - Set up PICC on Tuesd
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-11-30**] 06:18 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-11-28**] 12:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes, patient is critically ill

2182-12-01 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NCHCT revealed multiple R-sided hypodensities c/w subacute infarcts
   - curbsided neuro: began plavix (its an ASA failure), ordered carotids,
   echo with bubble, and fasting lipids in AM
   - did well on trach collar most of day
   - lasix gtt on board
   - surgery unlikely to operate with new neuro findings, but pancreatic
   surgeon (Dr. [**Last Name (STitle) 2346**] has not left note yet
   - met with family, updated re: new stroke
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-11-28**] 10:00 AM
   Vancomycin - [**2182-11-30**] 08:04 PM
   Ciprofloxacin - [**2182-12-1**] 12:30 AM
   Piperacillin - [**2182-12-1**] 02:15 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-1**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 115 (94 - 124) bpm
   BP: 140/83(98) {99/69(75) - 140/94(102)} mmHg
   RR: 31 (15 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,609 mL
                                                                    430 mL
   PO:
             TF:
                                                                  1,572 mL
   IVF:
                                                                  1,546 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,100 mL
   Urine:
                                                                  3,700 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -91 mL
                                                                   -670 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 555 (400 - 776) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 12.8 L/min
   Physical Examination
   General: smiles, tracks  movement, able to follow simple commands but
   inconsistently
   Lungs: CTA b/l
   Cardio: distant HS, tachycardic, no m/r/g/
   Abd: soft, NTND, obese, hypoactive but present BS
   Extremities: 1+ UE edema, no LE edema
   Skin: no rashes, no petechiae
   Labs / Radiology
   380 K/uL
   11.1 g/dL
   71 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.5 mEq/L
   40 mg/dL
   105 mEq/L
   147 mEq/L
   32.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
                             [**2182-12-1**]  04:10 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   11.1
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   32.5
   Plt
   [**Telephone/Fax (2) 7537**]
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   1.3
   TCO2
   34
   34
   34
   33
   Glucose
   183
   297
   114
   182
   225
   71
   Other labs: PT / PTT / INR:15.2/28.3/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:326/262, Alk Phos / T Bili:624/0.8,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.5
   mg/dL
   Imaging: [**11-30**] NCHCT
   IMPRESSION: 1. Right frontal and right parietal hypodensities appear to
   represent infarct of unclear chronicity, but possibly subacute.
   Recommend MRI
   with diffusion-weighted imaging for further evaluation.
   2. Near complete opacification of the sphenoid sinus with opacification
   of
   multiple posterior ethmoid air cells. Opacification of multiple right
   mastoid
   air cells also observed.
   NOTE ADDED AT ATTENDING REVIEW: The right frontal hypodensity is
   associated with local tissue loss, and is therefore chronic. The right
   parietal low density region has no tissue loss and may be subacute.
   Microbiology: [**11-28**] cath tip LIJ : prelim NGTD
   [**11-27**] cath tip PICC: prelim NGTD
   [**11-26**] a-line: no growth final
   [**11-26**] sputum: mod growth oropharyngeal flora
   [**11-26**] BCx:
   [**11-26**] UCx: Negative
   Assessment and Plan
   Mr. [**Known lastname 7311**] is a 63 year old male with extensive cardiac history,
   admitted with severe gallstone pancreatitis complicated by extensive
   pancreatic necrosis, ARDS, prolonged ileus, fever, and stroke.
   #) Stroke
 two distinct lesions appear of separate but likely subacute
   chronologies. Neuro curbsided.
   -- carotid dopplers
   -- echo with bubble study
   -- f/u fasting lipids this AM
   --  A1c 5.7%
   -- on plavix (stroke considered an ASA failure)
   -- will likely need PEG placement
   #) Failure to Wean, Respiratory failure
 doing well with slow
   progession to tolerating more trach collar.
   -- cont to wean PSV as tolerated to trach collar
   - MIE machine for cough assist, re-expansion of bibasilar atelectasis
   #) Fever - possibly due to necrotic pancreatitis. Pancultured [**11-26**],
   with nothing growing from any cultures. Lines have been d/c
   Sinusitis is a possibility as seen on CT head. Abx hx: vanco d/c
ed on
   [**11-23**]; [**Last Name (un) 430**] d/c
ed [**11-26**] after 15 day course.
   -- no evidence of HAP/VAP in sputum, CXR without obvious infiltrate
   -- all cultures with NGTD
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] c/s recs re: pancreatic necrosis as etiology and need for
   evacuation/debridement, may not operate given new CVA
   -- if sinusitis is probable, consider switch to unasyn and d/c NGT, as
   will need PEG given stroke
   # Transaminitis: trending up with resumption of antibiotics argues for
   medication effect
   -- no need for RUQ U/S as no a surgical candiadate
   -- check GGT
   -- consider d/c vanc/zosyn/cipro as LFT bump tends to correlate with
   use of these abx
   # Volume Status
   -- was 18L positive LOS after aggressive volume resuscitation, continue
   lasix gtt with goal -1.5L today
   #) Ileus: Resolving since [**11-25**]. TF at goal with minimal residuals.
   -- prn bowel regimen
   #) Hypernatremia
 persistently at 147
   -- increase FWB throught NGT
   -- check PM Na
   #) Hyperglycemia: had high sugars since being taken off TPN.
   -- calculating total daily insulin requirement sand uptitrating NPH [**Hospital1 **]
   as needed for better control
   ICU Care
   Nutrition:
   Comments: resume TFs this AM (held for 12 hours for fasting lipids)
   discussed changing TFs to elemental formula or adding pancreatic
   enzymes with nutrition, recommended no changes unless evidence of
   steatorrhea/malabsorption
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2182-11-30**] 01:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Addendum: will hold plavix for now as may get PEG as early as tomorrow
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 842**], MD
   on:[**2182-12-1**] 08:07 ------

2182-12-01 09:04:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   63yo with necrotizing gallstone pancreatitis complicated by ARDS, ARF,
   abdominal compartment syndrome, and now generalized weakness (concern
   for critical illness myopathy).  Also with altered mental status, with
   Head CT showing hypodensities c/w CVA.
   24 Hour Events:
   - Head CT yesterday c/w 2 right sided hypodensities (parietal and
   occipital)
   - Continued on tracheostomy collar yesterday; o/n rested on PS 10/5,
   50%
   - Awaiting Dr.[**Name (NI) 7529**] recommendations re: need for pancreatic biopsy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-11-28**] 10:00 AM
   Vancomycin - [**2182-11-30**] 08:04 PM
   Ciprofloxacin - [**2182-12-1**] 12:30 AM
   Piperacillin - [**2182-12-1**] 02:15 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Other medications:
   Atrovent/ Albuterol Neb q4hr
   Heparin 5000u tid
   Prevacid 30mg qd
   Metop 25 mg q6hr
   Senna /
   Chlorhexidine
   ISS (req 8 units)
   NPH 25units / 45units
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-1**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 117 (94 - 124) bpm
   BP: 122/72(80) {99/69(75) - 140/94(101)} mmHg
   RR: 26 (15 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,609 mL
                                                                    571 mL
   PO:
             TF:
                                                                  1,572 mL
                                                                    110 mL
   IVF:
                                                                  1,546 mL
                                                                    461 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,440 mL
   Urine:
                                                                  3,700 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -91 mL
                                                                   -869 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 555 (400 - 776) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 12.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Crackles : at sides)
   Abdominal: Soft, Non-tender, Bowel sounds present, neg [**Doctor Last Name 2058**] sign
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   380 K/uL
   71 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.5 mEq/L
   40 mg/dL
   105 mEq/L
   147 mEq/L
   32.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2182-11-25**]  09:26 PM
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
                             [**2182-12-1**]  04:10 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   11.1
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   32.5
   Plt
   [**Telephone/Fax (2) 7537**]
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   1.3
   TCO2
   34
   34
   34
   33
   Glucose
   183
   297
   114
   182
   225
   71
   Other labs: PT / PTT / INR:15.2/28.3/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:326/262, Alk Phos / T Bili:624/0.8,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   1. Neuro- with evidence of prior strokes on Head CT
        a) Risk stratify with TTE with bubble, carotid dopplers, A1c
        b) Likely critical illness myopathy / polyneuropathy. Supportive
   measures
             - Will consult PT/OT
        c) Will check TSH for gross abnormalities.
   2. Renal-
     a) Hypernatremia --> continue on FWF, check pm lytes.
     b) Continue to diurese
   3. GI
     a) Acute elevation in transaminases
          - Unclear etiology- neg [**Doctor Last Name 2058**] sign; question of obstruction
   due to gallstones.
          - ? [**Doctor Last Name 473**] effect.
          - Given patient is HD stable and afebrile, with neg [**Doctor Last Name 2058**];
   will watch for now
          - Adding ursodiol
     b) Feed via OG tube for now
     c) Discuss when pt will receive PEG with IP or may benefit from post
   pyloric tube under guidance by IR
     d) Tube feeds tolerated, no evidence steatorrhea
   4. ID-
     a) Head Ct c/w acute opacification of ethmoid and sphenoid sinuses.
         - Will change NG tube to OG tube.
         - Nasosinal flushes
         - Curbside ENT  to discuss role of aspiration of sinuses to r/o
   fungal sinusitis
     b) On Vanc / Zosyn / Cipro
         - Has received 3 weeks [**Last Name (LF) 473**], [**First Name3 (LF) 178**] d/c [**First Name3 (LF) 473**]
   5. Resp-
      a) remains on trach collar during day, wean FiO2 to 40%
      b) will not place on PS at night
      c) Continue MIE and recheck sputum GS, C&S
   6. Endo-
      a) On NPH and ISS
   7. Dispo- awaiting dispo to rehab.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-12-1**] 07:00 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2182-11-30**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 mins

2182-12-02 07:32:00 Physician Resident Progress Note
Chief Complaint: Pancreatitis
   Resp failure
   Stroke
   24 Hour Events:
   -- planning to do a post-pyloric by IR today; has been NPO
   -- surgery left recs that no intervention on pancreas needed currently;
   [**Last Name (un) 7552**] not back until [**2182-12-3**]
   -- some evidence of sinusitis on head CT from [**2182-11-30**]; spoke w/  ENT
   about poss of fungal infection; they said it was unlikely, recommended
   Afrin spray & saline irrigation
   -- NG tube replaced with OG tube, but later pulled out b/c pt tonguing
   the tube & placement uncertain
   -- discontinued vanco/cipro/zosyn as felt were not adding any tx at
   this point
   -- big jump in LFT's overnight from [**11-30**] --> [**12-1**]; think likley med
   effect and have deferred RUQ US for now; started on ursodiol
   -- repeated TSH to see if abnormal and contributing to weakness; came
   back at 1.7.
   -- have been using the MIE machine
   -- was up and sitting in his chair
   -- left on trach collar overnight
   -- didn't sleep at all the whole night; ? depression, delirium
   -- echo & carotid US still haven't been done (ordered on Sat)
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-11-30**] 08:04 PM
   Ciprofloxacin - [**2182-12-1**] 12:30 AM
   Piperacillin - [**2182-12-1**] 02:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-12-2**] 12:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-2**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 117 (102 - 125) bpm
   BP: 139/96(105) {96/65(74) - 142/98(106)} mmHg
   RR: 31 (17 - 41) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,684 mL
                                                                    200 mL
   PO:
             TF:
                                                                    500 mL
   IVF:
                                                                  1,184 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                    670 mL
   Urine:
                                                                  4,250 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,566 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: Standby
   RR (Spontaneous): 32
   FiO2: 50%
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach collar
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   364 K/uL
   11.7 g/dL
   101 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.5 mEq/L
   45 mg/dL
   106 mEq/L
   148 mEq/L
   34.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
                             [**2182-12-1**]  04:10 AM
                             [**2182-12-2**]  03:55 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   11.1
   11.7
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   32.5
   34.5
   Plt
   [**Telephone/Fax (3) 7537**]
   364
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   1.3
   1.4
   TCO2
   34
   34
   33
   Glucose
   183
   297
   114
   182
   225
   71
   101
   Other labs: PT / PTT / INR:14.9/25.0/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:214/136, Alk Phos / T Bili:520/0.8,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.8 mg/dL, Mg++:2.8 mg/dL, PO4:4.7
   mg/dL
   Imaging: CT head [**11-30**]:
   IMPRESSION: 1. Right frontal and right parietal hypodensities appear to
   represent infarct of unclear chronicity, but possibly subacute.
   Recommend MRI with diffusion-weighted imaging for further evaluation.
   2. Near complete opacification of the sphenoid sinus with opacification
   of
   multiple posterior ethmoid air cells. Opacification of multiple right
   mastoid
   air cells also observed.
   Microbiology: No new data.
   Assessment and Plan
   Mr. [**Known lastname 7311**] is a 63 year old male with extensive cardiac history,
   admitted with severe gallstone pancreatitis complicated by extensive
   pancreatic necrosis, ARDS, prolonged ileus, fever, and stroke.
   #) Stroke
 two distinct lesions appear of separate but likely subacute
   chronologies. Neuro curbsided.
   -- carotid dopplers
   -- echo with bubble study
   -- fasting lipids this AM: Tchol 163, LDL 109, HDL 38, TG 78
   --  A1c 5.7%
   -- hoding  plavix for possible PEG (stroke considered an ASA failure)
   -- will need PEG placement
   #) Failure to Wean, Respiratory failure
 doing well with slow
   progession to tolerating more trach collar.
   -- cont to wean PSV as tolerated to trach collar
   - MIE machine for cough assist, re-expansion of bibasilar atelectasis
   #) Fever - possibly due to necrotic pancreatitis. Pancultured [**11-26**],
   with nothing growing from any cultures. Lines have been d/c
   Sinusitis is a possibility as seen on CT head. Abx hx: vanco d/c
ed on
   [**11-23**]; [**Last Name (un) 430**] d/c
ed [**11-26**] after 15 day course.   ABX were re-initiated due
   to fevers
   -- no evidence of HAP/VAP in sputum, CXR without obvious infiltrate;
   stopped vanco/cipro/zosyn on [**12-1**]
   -- all cultures with NGTD
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] c/s recs re: pancreatic necrosis as etiology and need for
   evacuation/debridement, may not operate given new CVA
   -- sinusitis possible source, d/c'd NGT,  will need PEG given stroke
   # Transaminitis: trending up with resumption of antibiotics argues for
   medication effect.  Trended down after discontinuation of abx
   -- no need for RUQ U/S as no a surgical candiadate
   -- check GGT
   -- d/c vanc/zosyn/cipro [**12-1**]
   # Volume Status
   -- was 18L positive LOS after aggressive volume resuscitation, continue
   lasix gtt with goal -1.5L today
   #) Ileus: Resolving since [**11-25**]. Was doing well on tube feeds, but now
   now NGT
   -- prn bowel regimen
   #) Hypernatremia
 persistently at 147
   -- increase FWB throught NGT
   -- check PM Na
   #) Hyperglycemia: had high sugars since being taken off TPN.
   -- calculating total daily insulin requirement sand uptitrating NPH [**Hospital1 **]
   as needed for better control
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-11-30**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-12-02 11:40:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   63yo with necrotizing pancreatitis  with ARDs, ARF, s/p tracheostomy.
   Patient with likely critical illness myopathy / neuropathy.
   24 Hour Events:
   - NG tube removed yesterday given sinusitis. Not tolerating OG
   - Remained on TC all night
   - MIE being utilized
   - Yesterday Abx d/c'ed  with no fevers
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-11-30**] 08:04 PM
   Ciprofloxacin - [**2182-12-1**] 12:30 AM
   Piperacillin - [**2182-12-1**] 02:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-12-2**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2182-12-2**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-2**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 110 (98 - 124) bpm
   BP: 126/87(95) {96/68(74) - 142/98(106)} mmHg
   RR: 40 (17 - 41) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,684 mL
                                                                    249 mL
   PO:
             TF:
                                                                    500 mL
   IVF:
                                                                  1,184 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                    960 mL
   Urine:
                                                                  4,250 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,566 mL
                                                                   -711 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: Standby
   RR (Spontaneous): 32
   FiO2: TC 40%
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Thrush
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, Poor tone
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: No spontaneous movement, Tone: Decreased
   Labs / Radiology
   11.7 g/dL
   364 K/uL
   101 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.5 mEq/L
   45 mg/dL
   106 mEq/L
   148 mEq/L
   34.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2182-11-26**]  01:34 AM
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
                             [**2182-12-1**]  04:10 AM
                             [**2182-12-2**]  03:55 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   11.1
   11.7
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   32.5
   34.5
   Plt
   [**Telephone/Fax (2) 7537**]
   364
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   1.3
   1.4
   TCO2
   34
   34
   33
   Glucose
   183
   297
   114
   182
   225
   71
   101
   Other labs: PT / PTT / INR:14.9/25.0/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:214/136, Alk Phos / T Bili:520/0.8,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.8 mg/dL, Mg++:2.8 mg/dL, PO4:4.7
   mg/dL
   Imaging: No new CXR
   Microbiology: No new micro data
   Assessment and Plan
   63yo with necrotizing pancreatitis, ARDS, ARF, now improving.
   GI
    - Transaminases improving with cessation of Abx
    - Will place IR-guided post-pyloric tube tomorrow.
   ID
    - Now off antibiotics (received three weeks), remains afebrile.
    - If [**Last Name (LF) 4305**], [**First Name3 (LF) 178**] await cultures, if hemodynamically stable
   Resp
    - Remains on T piece 40%
    - Will wean FiO2 to keep SpO2>92%
    - Tachypneic : Likely multifactorial- combination CNS (given strokes),
   anxiety/ pain, hypernatremia.
   Renal
    - Hypernatremic- increase D5W drip
    - Continue diuresis --> TBB -1L
   Neuro- s/p CVA
    - Restart plavix
    - On statin
    - Carotid dopplers
   Endo-
   - Remains on NPH (receiving 1/2 dose while npo)
   ICU
   - Full Code
   - peripherals
   - Prophy: SQ heparin, PPI
   - Dispo: [**Hospital 2773**] rehab placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-11-30**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 min, patient remains critically ill

2182-12-03 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - did not yet get dobhoff, remains NPO
   - carotid u/s performed, not yet read. Echo not performed.
   - switched metoprolol to IV
   - diuresed on lasix gtt
   - persistently tachypneic, gave 1 mg morphine o/n
   This AM, follows commands, still only on the left.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-11-30**] 08:04 PM
   Ciprofloxacin - [**2182-12-1**] 12:30 AM
   Piperacillin - [**2182-12-1**] 02:15 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-12-2**] 08:30 AM
   Dextrose 50% - [**2182-12-2**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2182-12-3**] 12:00 AM
   Morphine Sulfate - [**2182-12-3**] 02:00 AM
   Metoprolol - [**2182-12-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-3**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 94 (89 - 123) bpm
   BP: 126/78(89) {107/73(82) - 135/91(100)} mmHg
   RR: 26 (18 - 45) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    901 mL
                                                                     44 mL
   PO:
             TF:
   IVF:
                                                                    876 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,210 mL
   Urine:
                                                                  2,660 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,759 mL
                                                                 -1,166 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General: follows simple commands but inconsistently
   HEENT: L eye subconjunctival injection
   Lungs: CTA b/l
   Cardio: distant HS, no m/r/g/
   Abd: soft, NTND, obese, hypoactive BS
   Extremities: 1+ UE edema, no LE edema
   Skin: no rashes, no petechiae
   Labs / Radiology
   343 K/uL
   12.3 g/dL
   136 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   50 mg/dL
   110 mEq/L
   150 mEq/L
   36.3 %
   12.9 K/uL
        [image002.jpg]
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
                             [**2182-12-1**]  04:10 AM
                             [**2182-12-2**]  03:55 AM
                             [**2182-12-3**]  03:47 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   11.1
   11.7
   12.9
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   32.5
   34.5
   36.3
   Plt
   [**Telephone/Fax (2) 7537**]
   364
   343
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   1.3
   1.4
   1.4
   TCO2
   34
   33
   Glucose
   183
   297
   114
   182
   [**Telephone/Fax (2) 7575**]6
   Other labs: PT / PTT / INR:14.9/25.0/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:148/117, Alk Phos / T Bili:431/0.9,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.6 mg/dL, Mg++:2.8 mg/dL, PO4:4.4
   mg/dL
   Imaging: CAROTID U/S PND
   MICRO:
   [**11-28**] cath tip LIJ : prelim NGTD
   [**11-27**] cath tip PICC: prelim NGTD
   [**11-26**] a-line: no growth final
   [**11-26**] sputum: mod growth oropharyngeal flora
   [**11-26**] BCx:
   [**11-26**] UCx: Negative
   Assessment and Plan
   Mr. [**Known lastname 7311**] is a 63 year old male with extensive cardiac history,
   admitted with severe gallstone pancreatitis complicated by extensive
   pancreatic necrosis, ARDS, prolonged ileus, fever, and stroke.
   #) Stroke
 two distinct lesions appear of separate but likely subacute
   chronologies. Neuro curbsided.
   -- f/u carotid dopplers
   -- echo with bubble study this AM
   -- fasting lipids with LDL 109, TC 163, HDL 38
 near goal
   --  A1c 5.7%
   -- should go forward on plavix (stroke considered an ASA failure),
   would d/c ASA per MATCH trial
   -- no PEG given pancreatic inflammation, will get post pyloric feeding
   tube today
   #) Failure to Wean, Respiratory failure
 doing well with slow
   progession to tolerating more trach collar.
   -- cont trach collar
   -- continue MIE machine for cough assist, re-expansion of bibasilar
   atelectasis
   #) Fever - possibly due to necrotic pancreatitis. Pancultured [**11-26**],
   with nothing growing from any cultures. Lines have been d/c
   Sinusitis is a possibility as seen on CT head. Abx hx: vanco d/c
ed on
   [**11-23**]; [**Last Name (un) 430**] d/c
ed [**11-26**] after 15 day course.
   -- off all antibiotics since [**12-1**]
   -- NGT d/c
   -- no evidence of HAP/VAP in sputum, CXR without obvious infiltrate
   -- all cultures with NGTD
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 2346**] [**Doctor First Name 458**] recs, might not operate given new CVA
   # Transaminitis: trended up with resumption of antibiotics, now
   trending down again, argues for medication effect
   -- no need for RUQ U/S as no a surgical candiadate
   # Volume Status
   -- was 18L positive LOS after aggressive volume resuscitation, continue
   lasix gtt with goal -1L today
   #) Ileus: Resolving since [**11-25**].
   -- TF once post pyloric tube in place
   #) Hypernatremia
 150 today
   -- got 500cc of D5W this AM
   -- resume FWB throught NGT once placed
   -- check PM Na
   #) Hyperglycemia: had high sugars since being taken off TPN.
   -- calculating total daily insulin requirement sand uptitrating NPH [**Hospital1 **]
   as needed for better control
   #) Renal fucntion
 prerenal vs CIN
   -- repelete FWD with D5W and FWB
   -- trend daily, renally dose meds
   ICU Care
   Nutrition:
   Comments: NPO pending post pyloric tube placement
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2182-11-30**] 01:32 PM
   18 Gauge - [**2182-12-2**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-12-03 11:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Went for Dobhoff placement this morning.
   Episode of hypoglycemia yesterday.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-11-30**] 08:04 PM
   Ciprofloxacin - [**2182-12-1**] 12:30 AM
   Piperacillin - [**2182-12-1**] 02:15 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2182-12-2**] 12:00 PM
   Morphine Sulfate - [**2182-12-3**] 02:00 AM
   Metoprolol - [**2182-12-3**] 06:00 AM
   Pantoprazole (Protonix) - [**2182-12-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-12-3**] 08:00 AM
   Other medications:
   Atrovent, Senna, RISS, ursodiol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-3**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 114 (89 - 117) bpm
   BP: 114/85(92) {107/73(82) - 135/91(100)} mmHg
   RR: 37 (18 - 45) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                    901 mL
                                                                    203 mL
   PO:
             TF:
   IVF:
                                                                    876 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,600 mL
   Urine:
                                                                  2,660 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,759 mL
                                                                 -1,397 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, L conjunctival injection
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   343 K/uL
   136 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   50 mg/dL
   110 mEq/L
   150 mEq/L
   36.3 %
   12.9 K/uL
        [image002.jpg]
                             [**2182-11-26**]  03:50 AM
                             [**2182-11-26**]  11:09 AM
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
                             [**2182-12-1**]  04:10 AM
                             [**2182-12-2**]  03:55 AM
                             [**2182-12-3**]  03:47 AM
   WBC
   11.2
   13.1
   14.1
   11.3
   11.3
   11.1
   11.7
   12.9
   Hct
   29.8
   32.4
   31.5
   28.6
   30.7
   32.5
   34.5
   36.3
   Plt
   [**Telephone/Fax (2) 7537**]
   364
   343
   Cr
   1.1
   1.2
   1.3
   1.2
   1.2
   1.3
   1.4
   1.4
   TCO2
   34
   33
   Glucose
   183
   297
   114
   182
   [**Telephone/Fax (2) 7575**]6
   Other labs: PT / PTT / INR:14.9/25.0/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:148/117, Alk Phos / T Bili:431/0.9,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.6 mg/dL, Mg++:2.8 mg/dL, PO4:4.4
   mg/dL
   Imaging: Head CT:  Multiple R-sided infarcts, possbily subacute and
   chronic.  Sinusitis
   [**Last Name (un) 7581**]:  Read pending
   Microbiology: No new micro
   Assessment and Plan
   63yo with necrotizing pancreatitis, ARDS, ARF, now improving.
   CVA's:  Work up for possible embolic stroke ongoing
     -F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 7581**] and TTE
     -Restart anti-platelet therapy.
     -Continue statin
   Pancreatic necrosis: Appreciate surgical input.  No plans for any
   debridement at present.
     -Will discuss with surgical team regarding feasibility of PEG
   placement
   Transaminitis:  Improving off antibiotics
   Fevers:  Improving and have remained low grade off antibiotics.
   Respiratory failure:  continues to tolerate trach collar.
     -Continue pulmonary toilet. But may need MIE/ Vest device to aid with
   secretion clearance. His rapid shallow breathing pattern puts him at
   risk for atelectasis/ PNA
   Renal:  Creatinine mildly up over the last 1-2 days.  Likely related to
   diuresis
     -Hypernatremic- restart free water boluses.
     -Continue diuresis but will slow down and monitor Cr.  TBB goal
   -500cc
   Diabetes:  If no plans for PEG tube, will increase NPH as TF are
   restarted.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2182-11-30**] 01:32 PM
   18 Gauge - [**2182-12-2**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2182-12-04 07:37:00 Physician Resident Progress Note
Chief Complaint: Pancreatitis
   Resp failure s/p trach
   Stroke
   24 Hour Events:
   - got dobhoff placed
   - surgery/[**Doctor Last Name 2346**] saw
 no PEG
   - carotid u/s not yet read
   - echo: poor study but no obvious PFO
   - ran near even for the day
   - likely has a bed today if ready to go
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-12-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-12-4**] 12:00 AM
   Metoprolol - [**2182-12-4**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-4**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 108 (97 - 121) bpm
   BP: 119/80(89) {107/72(83) - 135/92(99)} mmHg
   RR: 39 (35 - 43) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,084 mL
                                                                    915 mL
   PO:
             TF:
                                                                    200 mL
   IVF:
                                                                  1,144 mL
                                                                    915 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    630 mL
   Urine:
                                                                  2,680 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -596 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, NG tube, Trach collar
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: At bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   308 K/uL
   12.1 g/dL
   165 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   49 mg/dL
   109 mEq/L
   148 mEq/L
   34.9 %
   12.8 K/uL
        [image002.jpg]
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
                             [**2182-12-1**]  04:10 AM
                             [**2182-12-2**]  03:55 AM
                             [**2182-12-3**]  03:47 AM
                             [**2182-12-4**]  04:02 AM
                             [**2182-12-4**]  04:57 AM
   WBC
   13.1
   14.1
   11.3
   11.3
   11.1
   11.7
   12.9
   12.8
   Hct
   32.4
   31.5
   28.6
   30.7
   32.5
   34.5
   36.3
   34.9
   Plt
   521
   419
   309
   366
   [**Telephone/Fax (2) 7601**]08
   Cr
   1.2
   1.3
   1.2
   1.2
   1.3
   1.4
   1.4
   1.2
   TCO2
   33
   Glucose
   297
   114
   182
   225
   71
   101
   136
   165
   Other labs: PT / PTT / INR:14.9/25.0/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:118/142, Alk Phos / T Bili:341/0.8,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.8
   mg/dL
   Imaging: Echo w/bubble: No PFO identified
   Microbiology: No new data
   Assessment and Plan
   Mr. [**Known lastname 7311**] is a 63 year old male with extensive cardiac history,
   admitted with severe gallstone pancreatitis complicated by extensive
   pancreatic necrosis, ARDS, prolonged ileus, fever, and stroke.
   #) Stroke
 two distinct lesions appear of separate but likely subacute
   chronologies. Neuro curbsided.
   -- f/u carotid dopplers
   -- echo with bubble study: No evid PFO
   -- fasting lipids with LDL 109, TC 163, HDL 38
 near goal
   --  A1c 5.7%
   -- should go forward on plavix (stroke considered an ASA failure),
   would d/c ASA per MATCH trial
   -- no PEG given pancreatic inflammation, go post pyloric feeding tube
   #) Failure to Wean, Respiratory failure
 doing well with slow
   progession to tolerating more trach collar.
   -- cont trach collar
   -- continue MIE machine for cough assist, re-expansion of bibasilar
   atelectasis
   #) Fever - possibly due to necrotic pancreatitis. Pancultured [**11-26**],
   with nothing growing from any cultures. Lines have been d/c
   Sinusitis is a possibility as seen on CT head. Abx hx: vanco d/c
ed on
   [**11-23**]; [**Last Name (un) 430**] d/c
ed [**11-26**] after 15 day course.
   -- off all antibiotics since [**12-1**]
   -- has new dobnoff feeding tube
   -- no evidence of HAP/VAP in sputum, CXR without obvious infiltrate
   -- all cultures with NGTD
   -- Surgery/[**Doctor Last Name 2346**]
 no PEG b/c of sig pancreatic inflammation
   # Transaminitis: trended up with resumption of antibiotics, now
   trending down again, argues for medication effect
   -- no need for RUQ U/S as no a surgical candiadate
   # Volume Status
   - was 18L positive LOS after aggressive volume resuscitation
   - was on lasix gtt
 transitition to bolus lasix (40mg IV BID), need to
   titrate to 500-1000ml neg daily
   #) Ileus: Resolved since [**11-25**].
   -- TF resumed (were off overnight)
   #) Hypernatremia
 148 today
   -- resumed  FWB throught NGT
   -- check [**Hospital1 **] Na
   #) Hyperglycemia: had high sugars since being taken off TPN.
   -- calculating total daily insulin requirement sand uptitrating NPH [**Hospital1 **]
   as needed for better control
   #) Renal fucntion
 prerenal vs CIN
   -- repelete FWD with D5W and FWB
   -- trend daily, renally dose meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-12-3**] 11:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2182-12-04 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dobhoff placed in IR yesterday
   TTE done, no PFO or thrombus seen.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-12-4**] 08:00 AM
   Metoprolol - [**2182-12-4**] 10:00 AM
   Other medications:
   Senna, lansoprazole, RISS, NPH, Plavix, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-4**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 110 (86 - 121) bpm
   BP: 121/93(99) {107/72(83) - 135/93(99)} mmHg
   RR: 42 (23 - 43) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,084 mL
                                                                  1,191 mL
   PO:
             TF:
                                                                    200 mL
   IVF:
                                                                  1,144 mL
                                                                  1,191 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    930 mL
   Urine:
                                                                  2,680 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -596 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   308 K/uL
   165 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   49 mg/dL
   109 mEq/L
   148 mEq/L
   34.9 %
   12.8 K/uL
        [image002.jpg]
                             [**2182-11-26**]  03:10 PM
                             [**2182-11-27**]  03:03 AM
                             [**2182-11-28**]  05:01 AM
                             [**2182-11-29**]  04:31 AM
                             [**2182-11-30**]  04:08 AM
                             [**2182-12-1**]  04:10 AM
                             [**2182-12-2**]  03:55 AM
                             [**2182-12-3**]  03:47 AM
                             [**2182-12-4**]  04:02 AM
                             [**2182-12-4**]  04:57 AM
   WBC
   13.1
   14.1
   11.3
   11.3
   11.1
   11.7
   12.9
   12.8
   Hct
   32.4
   31.5
   28.6
   30.7
   32.5
   34.5
   36.3
   34.9
   Plt
   521
   419
   309
   366
   [**Telephone/Fax (2) 7601**]08
   Cr
   1.2
   1.3
   1.2
   1.2
   1.3
   1.4
   1.4
   1.2
   TCO2
   33
   Glucose
   297
   114
   182
   225
   71
   101
   136
   165
   Other labs: PT / PTT / INR:14.9/25.0/1.3, CK / CKMB /
   Troponin-T:919/4/1.16, ALT / AST:118/142, Alk Phos / T Bili:341/0.8,
   Amylase / Lipase:145/37, Differential-Neuts:74.8 %, Band:7.0 %,
   Lymph:15.0 %, Mono:8.4 %, Eos:1.1 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:423 IU/L, Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.8
   mg/dL
   Imaging: TTE:  No PFO, No thrombus.  EF 50%, No valvular disease
   Microbiology: No new micro
   Assessment and Plan
   63yo with necrotizing pancreatitis, ARDS, ARF, now improving.
   CVA's:  No clears source of emboli, [**Last Name (un) **] result still pending
     -F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 7581**]
     -Continue anti-platelet therapy.
     -Continue statin
    Pancreatic necrosis: Appreciate surgical input.  No plans for any
   debridement at present.
     -Per surgery, no plans for PEG tube placement given extent of
   necrosis/inflammation in the area.
    Transaminitis:  Improving off antibiotics
    Fevers:  Improving and have remained low grade off antibiotics.
   Respiratory failure:  continues to tolerate trach collar.
     -Continue pulmonary toilet. But may need MIE/ Vest device to aid with
   secretion clearance.
      His rapid shallow breathing pattern puts him at risk for
   atelectasis/ PNA
   Renal:  Creatinine has remained stable in 1.0-1.4 range.
     -Hypernatremic- continue free water boluses.
     -Will put on standing lasix dose.  [**Month (only) 60**] be able to stop lasix in the
   coming days once edema is resolved.
   Diabetes:  Continue to titrate NPH as TF are restarted and increased.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2182-12-3**] 11:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes